2156-11-28 08:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2156-11-27**] 06:40 PM
   - ABG looks worse, gave another Lasix 40mg IV x1 (2 total); UOP prior
   to second dose of Lasix was 750cc
   - Given another Lasix 40mg IV x1 this morning (total 3 IV doses, 120mg
   IV total in addition to standing home po dose) with improvement of PO2
   and ABG.
   - Acute decrease in PO2 this morning to PO2 90
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Meropenem - [**2156-11-25**] 06:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-27**] 08:57 PM
   Furosemide (Lasix) - [**2156-11-28**] 02:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-28**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98.1
   HR: 95 (90 - 97) bpm
   BP: 128/55(74) {111/50(66) - 133/66(79)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                    183 mL
                                                                    206 mL
   PO:
             TF:
   IVF:
                                                                     63 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                    240 mL
                                                                  1,775 mL
   Urine:
                                                                    240 mL
                                                                  1,775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -57 mL
                                                                 -1,569 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.44/52/51/31/9
   PaO2 / FiO2: 51
   Physical Examination
   GEN: nad, opens eyes intermittently verbal stimuli, not following
   commands
   HEENT: forehead lac/hematoma
   CV: RRR, no murmurs
   PULM: CTAB but with decreased BS on left, upper airway noises b/l
   ABD: soft, nt, +distended +BS
   EXTR: 2+pitting edema bilat U & LE
   Labs / Radiology
   43 K/uL
   7.9 g/dL
   92 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.6 mEq/L
   38 mg/dL
   104 mEq/L
   144 mEq/L
   24.1 %
   6.8 K/uL
        [image002.jpg]
                            [**2156-11-22**]  03:54 PM
                            [**2156-11-22**]  06:30 PM
                            [**2156-11-23**]  02:51 AM
                            [**2156-11-23**]  05:34 PM
                            [**2156-11-24**]  04:17 AM
                            [**2156-11-24**]  10:48 AM
                            [**2156-11-24**]  05:09 PM
                            [**2156-11-25**]  01:27 AM
                            [**2156-11-28**]  12:55 AM
                            [**2156-11-28**]  03:00 AM
   WBC
   4.3
   4.8
   6.7
   7.1
   6.2
   6.8
   Hct
   19.1
   19.9
   19.7
   21.3
   21.9
   21.0
   24.1
   Plt
   31
   63
   68
   68
   57
   43
   Cr
   0.6
   0.7
   0.8
   0.8
   0.7
   0.9
   0.9
   0.6
   TCO2
   36
   Glucose
   [**Telephone/Fax (3) 9982**]84
   128
   92
   Other labs: PT / PTT / INR:27.5/53.5/2.7, ALT / AST:31/67, Alk Phos / T
   Bili:241/16.7, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.2 g/dL, LDH:429 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Fluid analysis / Other labs: [**2156-11-28**]  12:55a
   ------------------------------------
   pH 7.44 pCO2 52 pO2 51 HCO3 36
   Imaging: [**11-28**] CXR - (my read) improved L pleural effusion
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Hypoxemia, fevers: Likely pneumonia.  Patient growing enterobacter
   cloacae which is pan-sensitive.  Continues to spike, however, despite
   broad coverage with antibiotics.  ABG demonstrates respiratory acidosis
   with metabolic alkalosis.  Acute incident today was in the context of
   worsening secretions; could have had mucous plugging.  In addition
   enterobacter has inducible resistance, perhaps the patient is no longer
   responding to the therapy. s/p extubation on [**11-21**].
   - ID consult, follow up recs
   - d/c Vanc and Flagyl
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - Lasix prn as pt
s respiratory status and hypoxia improved with
   aggressive diuresis
   - Additional Lasix 80mg IV now
   - Intubate electively given acute desat this morning, likely mucus plug
   which is unable to be suctioned up
   .
   # Hypernatremia:  Monitoring Na closely.
   - Increased free water flushes to 250mL Q4h
   - check pm lytes
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning.  On [**11-23**]
   patient had 2 units PRBC transfused without appropriate increase in
   hct, but no clear source of bleeding. CT head, torso yesterday ([**11-24**])
   showed no source of bleeding.
   - daily coags, HCT
   - transfuse as necessary
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   - f/u plastics recs
   .
   #. Altered mental status: Likely secondary to hypoxia Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Likely due to head wound bleeding.
   - Daily HCTs, coags as above
   - Guaiac all stools
   - Will monitor NGT output for bleeding
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 26. In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head  CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx. Needs out pt f/u
   - make outpt f/u apt
   .
   # FEN: Follow nutrition recommendations. Start tubefeeds, 250cc free
   water flushes q4h. Replete lytes prn.
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code.
   # Access: PICC line c/s placed.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.  GF updated on [**11-24**]. Plan for family meeting
   with social work and hepatology today at 215pm to discuss prognosis and
   goals of care.
   # Dispo:  ICU pending improvement of respiratory status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-11-28 12:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47 yo man with ETOH cirrhosis, recurrent encephalopathy, prolonged
   hospitalization c/ b aspiration PNAs, fall and ICH.  On floor was
   requiring frequent suctioning.  Transferred to MICU. 7.45/50/57.  Came
   to MICU and got lasix with some improvement.
   24 Hour Events:
 PICC LINE - START [**2156-11-27**] 06:40 PM
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Meropenem - [**2156-11-28**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-28**] 08:30 AM
   Furosemide (Lasix) - [**2156-11-28**] 09:30 AM
   Other medications:
   rifaxamin
   atrovent
   SSI
   lactulose
   MVI
   dilantin
   spironolactone
   albuterol
   mucomyst
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-28**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 91 (90 - 97) bpm
   BP: 123/53(69) {111/44(63) - 133/66(79)} mmHg
   RR: 20 (15 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                    183 mL
                                                                    468 mL
   PO:
             TF:
   IVF:
                                                                     63 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                    240 mL
                                                                  2,330 mL
   Urine:
                                                                    240 mL
                                                                  2,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -57 mL
                                                                 -1,863 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: 7.41/56/73.[**Numeric Identifier **]/31/8
   PaO2 / FiO2: 73
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left side,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   43 K/uL
   92 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.6 mEq/L
   38 mg/dL
   104 mEq/L
   144 mEq/L
   24.1 %
   6.8 K/uL
        [image002.jpg]
                            [**2156-11-22**]  06:30 PM
                            [**2156-11-23**]  02:51 AM
                            [**2156-11-23**]  05:34 PM
                            [**2156-11-24**]  04:17 AM
                            [**2156-11-24**]  10:48 AM
                            [**2156-11-24**]  05:09 PM
                            [**2156-11-25**]  01:27 AM
                            [**2156-11-28**]  12:55 AM
                            [**2156-11-28**]  03:00 AM
                            [**2156-11-28**]  11:10 AM
   WBC
   4.3
   4.8
   6.7
   7.1
   6.2
   6.8
   Hct
   19.1
   19.9
   19.7
   21.3
   21.9
   21.0
   24.1
   Plt
   31
   63
   68
   68
   57
   43
   Cr
   0.7
   0.8
   0.8
   0.7
   0.9
   0.9
   0.6
   TCO2
   36
   37
   Glucose
   167
   548
   184
   128
   92
   Other labs: PT / PTT / INR:27.5/53.5/2.7, ALT / AST:31/67, Alk Phos / T
   Bili:241/16.7, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:3.2 mmol/L, Albumin:3.2 g/dL, LDH:429 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   Respiratory distress:  unable to protect his airway, and aspirating.
   Is also grossly fluid overloaded.   Overall prognosis is very poor
   given his chronic
   illness.  Will need to be intubated, and discuss trach with family.
   Enterobacter PNA:  on imipenem
   cirrhosis.
   Intracranial hemorrhage:  stable, on dilantin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2156-11-29 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: subdural hematoma, ESLD, respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2156-11-28**] 12:55 PM
 ARTERIAL LINE - START [**2156-11-28**] 01:00 PM
 PAN CULTURE - At [**2156-11-28**] 06:00 PM
   -intubated yesterday afternoon
   -diuresed well, but required a lot of lasix to be able to do so
   -white-out lung post-intubation, then resolved (?mucus plug)
   -he's hypernatremic again this morning
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Meropenem - [**2156-11-29**] 04:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-28**] 08:30 AM
   Propofol - [**2156-11-28**] 01:00 PM
   Furosemide (Lasix) - [**2156-11-28**] 05:00 PM
   Other medications:
   Flowsheet Data as of  [**2156-11-29**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 88 (81 - 97) bpm
   BP: 116/47(68) {98/38(57) - 130/61(82)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                    911 mL
                                                                    170 mL
   PO:
             TF:
   IVF:
                                                                    551 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  4,315 mL
                                                                    265 mL
   Urine:
                                                                  4,315 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,404 mL
                                                                    -96 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.44/59/132/32/9
   Ve: 7.3 L/min
   PaO2 / FiO2: 264
   Physical Examination
    GEN: NAD, opens eyes to painful stim, not following commands
   HEENT: forehead lac/hematoma, no surrounding erythema/warmth
   CV: RRR, no murmurs
   PULM: fairly clear bilat
   ABD: soft, NT, +distension, +BS
   EXTR: 2+pitting edema bilat U & LE
   Labs / Radiology
   38 K/uL
   6.6 g/dL
   96 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.1 mEq/L
   40 mg/dL
   109 mEq/L
   149 mEq/L
   22.5 %
   5.9 K/uL
        [image002.jpg]
                            [**2156-11-24**]  10:48 AM
                            [**2156-11-24**]  05:09 PM
                            [**2156-11-25**]  01:27 AM
                            [**2156-11-28**]  12:55 AM
                            [**2156-11-28**]  03:00 AM
                            [**2156-11-28**]  11:10 AM
                            [**2156-11-28**]  02:18 PM
                            [**2156-11-28**]  06:07 PM
                            [**2156-11-29**]  02:49 AM
                            [**2156-11-29**]  03:03 AM
   WBC
   6.7
   7.1
   6.2
   6.8
   5.9
   Hct
   21.3
   21.9
   21.0
   24.1
   22.5
   Plt
   68
   68
   57
   43
   38
   Cr
   0.9
   0.9
   0.6
   0.6
   TCO2
   36
   37
   36
   38
   Glucose
   184
   128
   92
   106
   96
   Other labs: PT / PTT / INR:28.0/57.4/2.7, ALT / AST:28/66, Alk Phos / T
   Bili:178/16.9, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:3.3 mmol/L, Albumin:2.7 g/dL, LDH:375 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Imaging: [**11-28**] CXR Interval improvement in left lung aeration, (s/p
   adjusted vent setting).
   Persistant bilateral pleural effusion, L>>R with bibasilar opacity L>R
   could
   reflect basilar atelectasis. ET and NG in unchanged location.
   [**11-28**] CXR new complete collapse of the left lobe. ET tube tip is 5.9 cm
   above the carina. NG tube and right PICC remain in place. Right pleural
   effusion with adjacent atelectasis is stable.
   Microbiology: sputum [**11-20**] ENTEROBACTER CLOACAE
   sputum, urine, blood cxrs [**11-28**] pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Hypoxemia, fevers: Likely pneumonia.  Patient growing enterobacter
   cloacae which is pan-sensitive.  Continues to spike, however, despite
   broad coverage with antibiotics.  ABG demonstrates respiratory acidosis
   with metabolic alkalosis.  Acute incident today was in the context of
   worsening secretions; could have had mucous plugging.  In addition
   enterobacter has inducible resistance, perhaps the patient is no longer
   responding to the therapy. s/p extubation on [**11-21**].
   - Pt has been intubated 3 times this hospitalization, without
   improvement in his mental status.   He will need trach/PEG placement,
   as at this point it is unlikely that his mental status will improve
   such that he will be able to protect his airway.  Will email Dr.
   [**Last Name (STitle) 412**] (surgery) for consult.
   - ID consult, follow up recs
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - Lasix prn as pt
s respiratory status and hypoxia improved with
   aggressive diuresis
   - Wean PEEP as tolerated.
   .
   # Hypernatremia:  Monitoring Na closely.
   - Started D5 at 190cc/hr x 2L, pt
s free water deficit is 3.3L
   - check PM sodium
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning.  On [**11-23**]
   patient had 2 units PRBC transfused without appropriate increase in
   hct, but no clear source of bleeding. CT head, torso yesterday ([**11-24**])
   showed no source of bleeding.
   - daily coags, HCT
   - transfuse as necessary
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   - f/u plastics recs
   .
   #. Altered mental status: Likely secondary to hypoxia--Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Stable.
   - Daily HCTs, coags as above
   - Guaiac all stools
   - Will monitor NGT output for bleeding
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is 28 ([**11-29**]). In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx. Needs out pt f/u
   - make outpt f/u apt
   .
   # FEN: Follow nutrition recommendations. Start tubefeeds, 250cc free
   water flushes q4h. Replete lytes prn.
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code.
   # Access: PICC line c/s placed.
   .
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   # Dispo:  ICU pending improvement of respiratory status or placement of
   trach.

2156-11-29 11:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47 yo man with ETOH cirrhosis, recurrent encephalopathy, intubated for
   respiratory distress, inability to protect airway.  CXR with left lung
   collapse  that subsequently has improved.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2156-11-28**] 12:55 PM
 ARTERIAL LINE - START [**2156-11-28**] 01:00 PM
 PAN CULTURE - At [**2156-11-28**] 06:00 PM
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Meropenem - [**2156-11-29**] 08:00 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2156-11-28**] 01:00 PM
   Furosemide (Lasix) - [**2156-11-28**] 05:00 PM
   Other medications:
   rifaxamin
   SSI
   lactulose
   insulin
   lactulose
   MVI
   dilantin
   vitamin K
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-29**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.3
   HR: 90 (81 - 97) bpm
   BP: 120/56(77) {98/38(57) - 130/61(82)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                    911 mL
                                                                    315 mL
   PO:
             TF:
   IVF:
                                                                    551 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  4,315 mL
                                                                    485 mL
   Urine:
                                                                  4,315 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,404 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 12 cmH2O
   SpO2: 97%
   ABG: 7.44/59/132/32/9
   Ve: 7.4 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.6 g/dL
   38 K/uL
   96 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.1 mEq/L
   40 mg/dL
   109 mEq/L
   149 mEq/L
   22.5 %
   5.9 K/uL
        [image002.jpg]
                            [**2156-11-24**]  10:48 AM
                            [**2156-11-24**]  05:09 PM
                            [**2156-11-25**]  01:27 AM
                            [**2156-11-28**]  12:55 AM
                            [**2156-11-28**]  03:00 AM
                            [**2156-11-28**]  11:10 AM
                            [**2156-11-28**]  02:18 PM
                            [**2156-11-28**]  06:07 PM
                            [**2156-11-29**]  02:49 AM
                            [**2156-11-29**]  03:03 AM
   WBC
   6.7
   7.1
   6.2
   6.8
   5.9
   Hct
   21.3
   21.9
   21.0
   24.1
   22.5
   Plt
   68
   68
   57
   43
   38
   Cr
   0.9
   0.9
   0.6
   0.6
   TCO2
   36
   37
   36
   38
   Glucose
   184
   128
   92
   106
   96
   Other labs: PT / PTT / INR:28.0/57.4/2.7, ALT / AST:28/66, Alk Phos / T
   Bili:178/16.9, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:3.3 mmol/L, Albumin:2.7 g/dL, LDH:375 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Microbiology: [**11-20**] sputum with enterobacter
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   Respiratory failure:  unable to protect his airway.   Will need trach
   if wishing to continue with aggressive care.
   coagulapathy: stable d/c vitamin K
   intracranial hemorrhage: on dilantin
   VAP:  on meropenem until [**12-6**]
   ICU Care
   Nutrition:
   Comments: TFs.
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Arterial Line - [**2156-11-28**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2156-11-30 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.3
F - [**2156-11-30**] 04:00 AM
   - [**Name (NI) 9995**] mother should be listed as next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 10006**]
   - Discussed with pt's family need to place a trach & a peg and will
   contact Dr.[**Name (NI) 10007**] team for trach/peg placement
   - Family will be at [**Hospital1 1**] on Wednesday for meeting re: goals of care,
   pt's disposition.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Meropenem - [**2156-11-30**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-29**] 09:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-30**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 96 (81 - 98) bpm
   BP: 120/49(71) {100/38(57) - 132/59(81)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  1,970 mL
                                                                    830 mL
   PO:
             TF:
   IVF:
                                                                  1,560 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                  2,265 mL
                                                                    325 mL
   Urine:
                                                                  1,365 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -295 mL
                                                                    505 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 228 (228 - 228) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/57/86.[**Numeric Identifier **]/31/8
   Ve: 6.3 L/min
   PaO2 / FiO2: 174
   Physical Examination
   GEN: NAD, does not respond to sternal rub, but responded to
   manipulation of foley, when wrist restraints were taken off briefly,
   reached for ETT.
   HEENT: forehead lac/hematoma, no surrounding erythema/warmth
   CV: RRR, GII systolic murmer at RUSB and apex
   PULM: CTAB with decreased BS on left throughout
   ABD: soft, NT/ND, +BS
   EXTR: 2+pitting edema bilat U & LE
   Labs / Radiology
   38 K/uL
   7.3 g/dL
   165 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   39 mg/dL
   109 mEq/L
   148 mEq/L
   22.1 %
   5.2 K/uL
        [image002.jpg]
                            [**2156-11-28**]  03:00 AM
                            [**2156-11-28**]  11:10 AM
                            [**2156-11-28**]  02:18 PM
                            [**2156-11-28**]  06:07 PM
                            [**2156-11-29**]  02:49 AM
                            [**2156-11-29**]  03:03 AM
                            [**2156-11-29**]  04:27 PM
                            [**2156-11-29**]  07:00 PM
                            [**2156-11-30**]  04:00 AM
                            [**2156-11-30**]  04:49 AM
   WBC
   6.8
   5.9
   5.2
   Hct
   24.1
   22.5
   22.1
   Plt
   43
   38
   38
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   37
   36
   38
   38
   37
   Glucose
   92
   106
   96
   165
   Other labs: PT / PTT / INR:27.3/60.8/2.7, ALT / AST:29/75, Alk Phos / T
   Bili:167/17.9, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:389 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Hypoxemia, fevers: Likely pneumonia.  Patient growing enterobacter
   cloacae which is pan-sensitive.  Continues to spike, however, despite
   broad coverage with antibiotics.  ABG demonstrates respiratory acidosis
   with metabolic alkalosis.  Acute incident today was in the context of
   worsening secretions; could have had mucous plugging.  In addition
   enterobacter has inducible resistance, perhaps the patient is no longer
   responding to the therapy. s/p extubation on [**11-21**].
   - Pt has been intubated 3 times this hospitalization, without
   improvement in his mental status.   He will need trach/PEG placement,
   as at this point it is unlikely that his mental status will improve
   such that he will be able to protect his airway.  Will email Dr.
   [**Last Name (STitle) 412**] (surgery) for consult.
   - Given new fever spike, send bcx, ucx, sputum cx; cxr from today does
   not show evidence of infiltrate
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - If pt clinically declines, consider paracentesis for SBP
   - Arrange trach placement
   - ID consult, follow up recs
   - Lasix prn as pt
s respiratory status and hypoxia improved with
   aggressive diuresis; hold today given borderline hypernatremia, but may
   increase free water flushes and add lasix later today if pt appears
   fluid overloaded
   - Wean PEEP as tolerated.
   .
   # Hypernatremia:  Monitoring Na closely.
   - check PM sodium
   - Continue free water flushes; consider increasing flushes later today
   if Na increases
   .
   Stable/Non-active Issues:
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning.  On [**11-23**]
   patient had 2 units PRBC transfused without appropriate increase in
   hct, but no clear source of bleeding. CT head, torso yesterday ([**11-24**])
   showed no source of bleeding.
   - daily coags, HCT
   - transfuse as necessary
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   - f/u plastics recs
   .
   #. Altered mental status: Likely secondary to hypoxia--Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Stable.
   - Daily HCTs, coags as above
   - Guaiac all stools
   - Will monitor NGT output for bleeding
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is 28 ([**11-29**]). In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx. Needs out pt f/u
   - make outpt f/u apt
   .
   # FEN: Follow nutrition recommendations. Start tubefeeds, 250cc free
   water flushes q4h. Considering PEG placement. Replete lytes prn.
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code.
   # Access: PICC line c/s placed.
   .
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   # Dispo:  ICU pending improvement of respiratory status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Arterial Line - [**2156-11-28**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-11-30 10:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47 yo man with ETOH cirrhosis, recurrent aspiration, respiratory
   failure.
   24 Hour Events:
 FEVER - 101.3
F - [**2156-11-30**] 04:00 AM
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Meropenem - [**2156-11-30**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-29**] 09:29 PM
   Other medications:
   rifaxamin
   lactulose
   MVI
   phenytoin
   aldactone
   chlorhexidine
   free water flushes
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-30**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.2
C (100.7
   HR: 92 (81 - 98) bpm
   BP: 112/44(64) {100/38(57) - 132/59(81)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  1,970 mL
                                                                    854 mL
   PO:
             TF:
   IVF:
                                                                  1,560 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  2,265 mL
                                                                    405 mL
   Urine:
                                                                  1,365 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -295 mL
                                                                    449 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 228 (228 - 228) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 94%
   ABG: 7.41/57/86.[**Numeric Identifier **]/31/8
   Ve: 6.4 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   38 K/uL
   165 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   39 mg/dL
   109 mEq/L
   148 mEq/L
   22.1 %
   5.2 K/uL
        [image002.jpg]
                            [**2156-11-28**]  03:00 AM
                            [**2156-11-28**]  11:10 AM
                            [**2156-11-28**]  02:18 PM
                            [**2156-11-28**]  06:07 PM
                            [**2156-11-29**]  02:49 AM
                            [**2156-11-29**]  03:03 AM
                            [**2156-11-29**]  04:27 PM
                            [**2156-11-29**]  07:00 PM
                            [**2156-11-30**]  04:00 AM
                            [**2156-11-30**]  04:49 AM
   WBC
   6.8
   5.9
   5.2
   Hct
   24.1
   22.5
   22.1
   Plt
   43
   38
   38
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   37
   36
   38
   38
   37
   Glucose
   92
   106
   96
   165
   Other labs: PT / PTT / INR:27.3/60.8/2.7, ALT / AST:29/75, Alk Phos / T
   Bili:167/17.9, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:389 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   Fevers:  Had a fever this morning.    Pan-culture.  No new infiltrate
   on CXR, WBC stable.  Respiratory status stable, so doubt VAP.
   Respiratory failure:  inability to protect airway.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Arterial Line - [**2156-11-28**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:   40 minutes
   Critically Ill

2156-12-01 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure, subdural hematoma, altered mental
   status, alcoholic cirrhosis
   24 Hour Events:
 URINE CULTURE - At [**2156-11-30**] 10:50 AM
 BLOOD CULTURED - At [**2156-11-30**] 11:00 AM
 SPUTUM CULTURE - At [**2156-11-30**] 12:00 PM
 FEVER - 101.6
F - [**2156-11-30**] 12:00 PM, then 101.2 at 1600, low grades
   (100s) since then
   - Still hypernatremic with PM lytes (PM Na 151 <- 148): increased free
   water flushes to 300cc q4h, gave D5W x2L, sent urine lytes to evaluated
   for DI
   - No trach/PEG tomorrow given pt has been febrile; if afebrile
   tomorrow, will do both [**Doctor First Name **], and if febrile tomorrow will do just trach
   [**Doctor First Name **].
   Allergies:
   Citalopram shakiness reso
   Last dose of Antibiotics:
   Meropenem - [**2156-12-1**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2156-12-1**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.8
C (100
   HR: 97 (82 - 99) bpm
   BP: 112/41(64) {97/33(53) - 135/56(81)} mmHg
   RR: 13 (12 - 17) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,455 mL
                                                                  2,243 mL
   PO:
             TF:
                                                                    200 mL
                                                                    256 mL
   IVF:
                                                                  1,836 mL
                                                                  1,267 mL
   Blood products:
   Total out:
                                                                  1,965 mL
                                                                    270 mL
   Urine:
                                                                  1,365 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,490 mL
                                                                  1,973 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 538 (485 - 538) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 42
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 94%
   ABG: 7.39/57/98.[**Numeric Identifier 500**]/31/7
   Ve: 7.1 L/min
   PaO2 / FiO2: 196
   Physical Examination
   GEN: NAD, intubated, responsive only to painful stim
   HEENT: forehead lac/hematoma, no surrounding erythema/warmth
   CV: RRR, +m at RUSB
   PULM: fairly CTAB
   ABD: soft, NT/ND, +BS
   EXTR: 2+pitting edema bilat U & LE
   Labs / Radiology
   38 K/uL
   6.9 g/dL
   180 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.7 mEq/L
   36 mg/dL
   110 mEq/L
   147 mEq/L
   21.9 %
   5.6 K/uL
        [image002.jpg]
                            [**2156-11-29**]  02:49 AM
                            [**2156-11-29**]  03:03 AM
                            [**2156-11-29**]  04:27 PM
                            [**2156-11-29**]  07:00 PM
                            [**2156-11-30**]  04:00 AM
                            [**2156-11-30**]  04:49 AM
                            [**2156-11-30**]  05:19 PM
                            [**2156-11-30**]  05:30 PM
                            [**2156-12-1**]  02:51 AM
                            [**2156-12-1**]  03:20 AM
   WBC
   5.9
   5.2
   5.6
   Hct
   22.5
   22.1
   21.9
   Plt
   38
   38
   38
   Cr
   0.6
   0.5
   0.5
   0.5
   0.6
   TCO2
   38
   37
   37
   36
   Glucose
   106
   96
   165
   133
   180
   Other labs: PT / PTT / INR:25.7/57.5/2.5, ALT / AST:29/86, Alk Phos / T
   Bili:158/16.5, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:2.6 g/dL, LDH:429 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: UreaN:978;  Creat:73; Na:35 (normal 15 to
   250 milliequivalents); Osmolal:539 (normal 500-800mOsm), FeUrea
 20%,
   suggesting pre-renal
   Imaging: [**12-1**] CXR relatively unchanged by my read
   [**11-30**] CXR Large bilateral pleural effusions, larger on the left side
   are increased in amount with increase in bibasilar atelectasis.
   Cardiomediastinal silhouette is unchanged. Lines and tubes remain in
   place in the standard position.  There is mild engorgement of the
   azygos vein consistent with worsened fluid overload.
   Microbiology: B cxrs [**11-28**]/, [**11-30**] pending;  U cxr [**11-28**] - no growth, U
   cxr [**11-30**]
 pending;  [**11-28**] sputum
 negative,
   [**11-30**] sputum - pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Hypoxemia,: Likely pneumonia.  Patient growing enterobacter cloacae
   which is pan-sensitive.  Continues to spike, however, despite broad
   coverage with antibiotics.  ABG demonstrates respiratory acidosis with
   metabolic alkalosis.  Acute incident today was in the context of
   worsening secretions; could have had mucous plugging.  In addition
   enterobacter has inducible resistance, perhaps the patient is no longer
   responding to the therapy. s/p extubation on [**11-21**]. Pt has been
   intubated 4 times this hospitalization, without significant improvement
   in his mental status.   He will need trach/PEG placement, as at this
   point it is unlikely that his mental status will improve such that he
   will be able to protect his airway.
   - Surgery consulted, will place Trach tomorrow ([**12-2**]), and PEG also,
   if pt afebrile. Will need 1U Plt and 4U FFP prior to surgery.
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - If pt clinically declines, consider paracentesis for SBP
 however pt
   is being covered for SBP with meropenem.
   - Arrange trach placement
   - ID consult, follow up recs
   - Lasix prn as pt
s respiratory status and hypoxia improved with
   aggressive diuresis; but holding for now given pt
s hypernatremia.
   - Wean PEEP as tolerated.
   .
   # Fever: - New fevers but unknown source. Sent bcx, ucx, sputum cx; cxr
   from today does not show evidence of infiltrate; need to follow up
   cultures.  Will evaluate for non-infectious causes of fever while
   continuing to treat for VAP.
   - Will send C. diff.
   - Will obtain RUQ US to eval for cholecystitis
   - Will start empiric Vanco coverage
   - Will check lipase to eval for pancreatitis, as non-infectious cause
   of fever
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - If pt clinically declines, consider paracentesis for SBP
 however pt
   is being covered for SBP with meropenem.
   - ID consult, follow up recs
   - If pt continues to spike, could consider dedicated CT sinus to eval
   for sinusitis.
   .
   # Hypernatremia:  Monitoring Na closely. Urine lytes do not suggest DI.
    Suspect hypernatremia is due to pt not having tube feeds x 3 days,
   on-going tx with lactulose, and aggressive diuresis on the floor.
   - Continue free water flushes; will continue D5 given cont
   hypernatremia
   - check PM sodium
   .
   Stable/Non-active Issues:
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning.  On [**11-23**]
   patient had 2 units PRBC transfused without appropriate increase in
   hct, but no clear source of bleeding. CT head, torso yesterday ([**11-24**])
   showed no source of bleeding.
   - daily coags, HCT
   - transfuse as necessary
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   - f/u plastics recs
   .
   #. Altered mental status: Likely secondary to hypoxia--Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Stable.
   - Daily HCTs, coags as above
   - Guaiac all stools
   - Will monitor NGT output for bleeding
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is 28 ([**11-29**]). In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx. Needs out pt f/u
   - make outpt f/u apt
   .
   # FEN: Follow nutrition recommendations. Start tubefeeds, 300cc free
   water flushes q4h. Replete lytes prn. NPO after midnight for PEG
   placement.
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code.
   # Access: PICC line c/s placed.
   .
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   # Dispo:  ICU pending PEG/trach placement, begin screening pt for rehab
   (will need LTAC)

2156-12-01 10:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47 yo man with ETOH cirrhosis, multiple falls.  Awaiting T+G.   Has
   been febrile
   24 Hour Events:
 URINE CULTURE - At [**2156-11-30**] 10:50 AM
 BLOOD CULTURED - At [**2156-11-30**] 11:00 AM
 SPUTUM CULTURE - At [**2156-11-30**] 12:00 PM
 FEVER - 101.6
F - [**2156-11-30**] 12:00 PM
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Meropenem - [**2156-12-1**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   SSI
   rifaxamin
   aldactone
   chlorhexidine
   free water flush
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-1**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38
C (100.4
   HR: 100 (82 - 100) bpm
   BP: 121/52(74) {97/33(53) - 135/56(81)} mmHg
   RR: 17 (12 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,455 mL
                                                                  2,433 mL
   PO:
             TF:
                                                                    200 mL
                                                                    301 mL
   IVF:
                                                                  1,836 mL
                                                                  1,413 mL
   Blood products:
   Total out:
                                                                  1,965 mL
                                                                    370 mL
   Urine:
                                                                  1,365 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,490 mL
                                                                  2,063 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (485 - 538) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 42
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/57/98.[**Numeric Identifier 500**]/31/7
   Ve: 8.5 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   38 K/uL
   180 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.7 mEq/L
   36 mg/dL
   110 mEq/L
   147 mEq/L
   21.9 %
   5.6 K/uL
        [image002.jpg]
                            [**2156-11-29**]  02:49 AM
                            [**2156-11-29**]  03:03 AM
                            [**2156-11-29**]  04:27 PM
                            [**2156-11-29**]  07:00 PM
                            [**2156-11-30**]  04:00 AM
                            [**2156-11-30**]  04:49 AM
                            [**2156-11-30**]  05:19 PM
                            [**2156-11-30**]  05:30 PM
                            [**2156-12-1**]  02:51 AM
                            [**2156-12-1**]  03:20 AM
   WBC
   5.9
   5.2
   5.6
   Hct
   22.5
   22.1
   21.9
   Plt
   38
   38
   38
   Cr
   0.6
   0.5
   0.5
   0.5
   0.6
   TCO2
   38
   37
   37
   36
   Glucose
   106
   96
   165
   133
   180
   Other labs: PT / PTT / INR:25.7/57.5/2.5, ALT / AST:29/86, Alk Phos / T
   Bili:158/16.5, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:2.6 g/dL, LDH:429 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   Fevers:  Unclear sources.  Doubt VAP given repiratory status is
   unchanged.  Can check C. diff.  Can check RUQ U/S for acaclculous
   cholecystitis.
   Will add vanco to cover MRSA for fevers.
   hypernatremia:  likely due to combination of decreased intake, lasix,
   and lactulose causing osmotic diarrhea.
   respiratory failure:  unable to protect airway.  to get T+G tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Arterial Line - [**2156-11-28**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2156-12-02 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2156-12-1**] 12:25 PM
 URINE CULTURE - At [**2156-12-1**] 02:11 PM
 SPUTUM CULTURE - At [**2156-12-1**] 04:11 PM
 FEVER - 101.2
F - [**2156-12-1**] 12:00 PM
   - f/u AM phenytoin level (correct for albumin) on [**12-2**]
   - RUQ u/s: cholelithiasis but no evidence of cholecystitis; CBD 9mm
   dilation (was 8mm in [**Month (only) **]); heterogeneous liver; splenomegaly;
   pleural effusion = wet read
   - nl. lipase (32)
   - empiric vancomycin started
   - hyperNa improved in the afternoon (147 to 142)
   - plan for trach/peg tomorrow (will need 2 FFp and 1 plat at least at
   8AM, plan for 11AM procedure) = i didn't order for these yet. we should
   confirm the time with the surgeons and check with his AM nurse and then
   get the ball rolling around 8 or 830AM with the necessary transfusions
   based on their goals and his morning labs.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Meropenem - [**2156-12-1**] 08:00 PM
   Vancomycin - [**2156-12-1**] 09:44 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-2**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.3
   HR: 92 (90 - 100) bpm
   BP: 124/61(82) {108/43(63) - 142/65(88)} mmHg
   RR: 17 (13 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  7,426 mL
                                                                  1,136 mL
   PO:
             TF:
                                                                  1,162 mL
                                                                      2 mL
   IVF:
                                                                  4,463 mL
                                                                    954 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                  1,300 mL
   Urine:
                                                                    910 mL
                                                                    200 mL
   NG:
   Stool:
                                                                    900 mL
                                                                  1,100 mL
   Drains:
   Balance:
                                                                  5,616 mL
                                                                   -164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 498 (441 - 523) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.41/52/90.[**Numeric Identifier 433**]/30/6
   Ve: 6 L/min
   PaO2 / FiO2: 180
   Physical Examination
   GEN: NAD, intubated, responsive only to painful stim
   HEENT: forehead lac/hematoma, no surrounding erythema/warmth
   CV: RRR, +m at RUSB
   PULM: fairly CTAB
   ABD: soft, NT/ND, +BS
   EXTR: 2+pitting edema bilat U & LE
   Labs / Radiology
   37 K/uL
   6.4 g/dL
   159 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   33 mg/dL
   104 mEq/L
   140 mEq/L
   20.0 %
   6.1 K/uL
        [image002.jpg]
                            [**2156-11-29**]  07:00 PM
                            [**2156-11-30**]  04:00 AM
                            [**2156-11-30**]  04:49 AM
                            [**2156-11-30**]  05:19 PM
                            [**2156-11-30**]  05:30 PM
                            [**2156-12-1**]  02:51 AM
                            [**2156-12-1**]  03:20 AM
                            [**2156-12-1**]  04:07 PM
                            [**2156-12-2**]  03:31 AM
                            [**2156-12-2**]  03:46 AM
   WBC
   5.2
   5.6
   6.1
   Hct
   22.1
   21.9
   20.0
   Plt
   38
   38
   37
   Cr
   0.5
   0.5
   0.6
   0.5
   0.5
   TCO2
   38
   37
   37
   36
   34
   Glucose
   165
   133
   180
   202
   159
   Other labs: PT / PTT / INR:27.3/58.6/2.7, ALT / AST:35/98, Alk Phos / T
   Bili:167/16.3, Amylase / Lipase:/32, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.6 g/dL, LDH:475 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging:  RUQ scan [**12-1**]:
   CXR [**12-2**]:
   CXR [**12-1**]:
   Micro: B cxrs [**11-28**]/, [**11-30**] pending;  U cxr [**11-28**] - no growth, U cxr
   [**11-30**]
 pending;  [**11-28**] sputum
 negative,
   [**11-30**] sputum - pending
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Hypoxemia,: Likely pneumonia.  Patient growing enterobacter cloacae
   which is pan-sensitive.  Continues to spike, however, despite broad
   coverage with antibiotics.  ABG demonstrates respiratory acidosis with
   metabolic alkalosis.  Acute incident today was in the context of
   worsening secretions; could have had mucous plugging.  In addition
   enterobacter has inducible resistance, perhaps the patient is no longer
   responding to the therapy. s/p extubation on [**11-21**]. Pt has been
   intubated 4 times this hospitalization, without significant improvement
   in his mental status.   He will need trach/PEG placement, as at this
   point it is unlikely that his mental status will improve such that he
   will be able to protect his airway.
   - Surgery consulted, will place Trach tomorrow ([**12-2**]), and PEG also,
   if pt afebrile. Will need 1U Plt and 4U FFP prior to surgery.
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - If pt clinically declines, consider paracentesis for SBP
 however pt
   is being covered for SBP with meropenem.
   - Arrange trach placement
   - ID consult, follow up recs
   - Lasix prn as pt
s respiratory status and hypoxia improved with
   aggressive diuresis; but holding for now given pt
s hypernatremia.
   - Wean PEEP as tolerated.
   .
   # Fever: - New fevers but unknown source. Sent bcx, ucx, sputum cx; cxr
   from today does not show evidence of infiltrate; need to follow up
   cultures.  Will evaluate for non-infectious causes of fever while
   continuing to treat for VAP.
   - Will send C. diff.
   - Will obtain RUQ US to eval for cholecystitis
   - Will start empiric Vanco coverage
   - Will check lipase to eval for pancreatitis, as non-infectious cause
   of fever
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - If pt clinically declines, consider paracentesis for SBP
 however pt
   is being covered for SBP with meropenem.
   - ID consult, follow up recs
   - If pt continues to spike, could consider dedicated CT sinus to eval
   for sinusitis.
   .
   # Hypernatremia:  Monitoring Na closely. Urine lytes do not suggest
   DI.  Suspect hypernatremia is due to pt not having tube feeds x 3 days,
   on-going tx with lactulose, and aggressive diuresis on the floor.
   - Continue free water flushes; will continue D5 given cont
   hypernatremia
   - check PM sodium
   .
   Stable/Non-active Issues:
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning.  On [**11-23**]
   patient had 2 units PRBC transfused without appropriate increase in
   hct, but no clear source of bleeding. CT head, torso yesterday ([**11-24**])
   showed no source of bleeding.
   - daily coags, HCT
   - transfuse as necessary
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   - f/u plastics recs
   .
   #. Altered mental status: Likely secondary to hypoxia--Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Stable.
   - Daily HCTs, coags as above
   - Guaiac all stools
   - Will monitor NGT output for bleeding
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is 28 ([**11-29**]). In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx. Needs out pt f/u
   - make outpt f/u apt
   .
   # FEN: Follow nutrition recommendations. Start tubefeeds, 300cc free
   water flushes q4h. Replete lytes prn. NPO after midnight for PEG
   placement.
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code.
   # Access: PICC line c/s placed.
   .
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   # Dispo:  ICU pending PEG/trach placement, begin screening pt for rehab
   (will need LTAC)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Arterial Line - [**2156-11-28**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-02 10:47:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47 yo man with ETOH cirrhosis, encephalopathy, mupltiple falls, ICH,
   recurrent aspiration.  To get T+G today.
   24 Hour Events:
 BLOOD CULTURED - At [**2156-12-1**] 12:25 PM
 URINE CULTURE - At [**2156-12-1**] 02:11 PM
 SPUTUM CULTURE - At [**2156-12-1**] 04:11 PM
 FEVER - 101.2
F - [**2156-12-1**] 12:00 PM
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Meropenem - [**2156-12-2**] 07:41 AM
   Vancomycin - [**2156-12-2**] 08:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   rifaxamin
   MVI
   lactulose
   aldactone
   protonix
   SSI
   dilantin 125mg q12h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-2**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.1
   HR: 87 (87 - 98) bpm
   BP: 112/48(69) {104/43(63) - 142/65(88)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 80.8 kg
   Height: 72 Inch
           Total In:
                                                                  7,426 mL
                                                                  1,884 mL
   PO:
           TF:
                                                                  1,162 mL
                                                                      2 mL
   IVF:
                                                                  4,464 mL
                                                                  1,318 mL
   Blood products:
   289 mL
   Total out:
                                                                  1,810 mL
                                                                  1,460 mL
   Urine:
                                                                    910 mL
                                                                    360 mL
   NG:
   Stool:
                                                                    900 mL
                                                                  1,100 mL
   Drains:
   Balance:
                                                                  5,616 mL
                                                                    424 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 453 (441 - 523) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.41/52/90.[**Numeric Identifier 433**]/30/6
   Ve: 5.6 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed, opens eyes
   and tracks, does not folow commands
   Labs / Radiology
   6.4 g/dL
   37 K/uL
   159 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   33 mg/dL
   104 mEq/L
   140 mEq/L
   20.0 %
   6.1 K/uL
         [image002.jpg]
                            [**2156-11-29**]  07:00 PM
                            [**2156-11-30**]  04:00 AM
                            [**2156-11-30**]  04:49 AM
                            [**2156-11-30**]  05:19 PM
                            [**2156-11-30**]  05:30 PM
                            [**2156-12-1**]  02:51 AM
                            [**2156-12-1**]  03:20 AM
                            [**2156-12-1**]  04:07 PM
                            [**2156-12-2**]  03:31 AM
                            [**2156-12-2**]  03:46 AM
   WBC
   5.2
   5.6
   6.1
   Hct
   22.1
   21.9
   20.0
   Plt
   38
   38
   37
   Cr
   0.5
   0.5
   0.6
   0.5
   0.5
   TCO2
   38
   37
   37
   36
   34
   Glucose
   165
   133
   180
   202
   159
   Other labs: PT / PTT / INR:27.3/58.6/2.7, ALT / AST:35/98, Alk Phos / T
   Bili:167/16.3, Amylase / Lipase:/32, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.6 g/dL, LDH:475 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   Respiratory failure:  recurrent aspiration.  For trach today.
   Fevers:  no clear cause.  follow up cultures.  D/C meropenem after
   [**12-6**].
   Grossly fluid overloaded:  lasix for diuresis
   hypernatremia has resolved.
   dilantin level high - reduce dose to 100 [**Hospital1 **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Arterial Line - [**2156-11-28**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2156-12-03 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2156-12-2**] 12:58 PM
   to be trached
 OR RECEIVED - At [**2156-12-2**] 02:30 PM
   - Diuresis: Gave lasix 40mg IV x1 this AM,then again lasix 40mg IV
   overnight.
   - Decreased dose of Phenytoin from 125 TID to 100 TID, will need to
   recheck level after 3rd dose.
   - Pt had trach placed without complications--there was only some mild
   oozing, which is to be expected; no PEG placed--[**Doctor First Name **] recommends having
   PEG placed by GI when patient stabilized, as that procedure has
   increased risk of complications and GI is more experienced with it.
   Recommends [**Hospital1 **] plt/coag checks for next 24 hours, with goal PLT of >75
   and INR ~2. On arrival back to floor, pt will be given 1U FFP and 1U
   PLT which were already ordered.
   - Transfused the pt 2U PRBCs for HCT 20. Post-transfusion HCT 23.8.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Vancomycin - [**2156-12-2**] 08:12 PM
   Meropenem - [**2156-12-2**] 09:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-12-2**] 08:12 PM
   Furosemide (Lasix) - [**2156-12-3**] 05:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-3**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37
C (98.6
   HR: 87 (79 - 93) bpm
   BP: 128/54(75) {104/44(63) - 140/59(80)} mmHg
   RR: 14 (10 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 80.8 kg
   Height: 72 Inch
           Total In:
                                                                  6,272 mL
                                                                  1,006 mL
   PO:
           TF:
                                                                    572 mL
                                                                    487 mL
   IVF:
                                                                  2,315 mL
                                                                     75 mL
   Blood products:
                                                                  2,026 mL
                                                                    444 mL
   Total out:
                                                                  1,682 mL
                                                                     90 mL
   Urine:
                                                                    582 mL
                                                                     90 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                  4,590 mL
                                                                    916 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (339 - 541) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///30/
   Ve: 8.3 L/min
   Physical Examination
   GEN: NAD, jaundiced, intubated, responsive only to painful stim
   HEENT: forehead lac, no surrounding erythema/warmth
   CV: RRR, +m at RUSB
   PULM: fairly CTAB
   ABD: soft, NT/ND, +BS
   EXTR: 2+pitting edema bilat U & LE
   Labs / Radiology
   73 K/uL
   8.0 g/dL
   159 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.0 mEq/L
   39 mg/dL
   102 mEq/L
   140 mEq/L
   23.8 %
   6.2 K/uL
        [image002.jpg]
                            [**2156-11-30**]  05:19 PM
                            [**2156-11-30**]  05:30 PM
                            [**2156-12-1**]  02:51 AM
                            [**2156-12-1**]  03:20 AM
                            [**2156-12-1**]  04:07 PM
                            [**2156-12-2**]  03:31 AM
                            [**2156-12-2**]  03:46 AM
                            [**2156-12-2**]  10:35 AM
                            [**2156-12-2**]  07:00 PM
                            [**2156-12-3**]  05:06 AM
   WBC
   5.6
   6.1
   5.7
   6.2
   Hct
   21.9
   20.0
   20.3
   23.8
   Plt
   38
   37
   63
   86
   73
   Cr
   0.5
   0.6
   0.5
   0.5
   0.9
   0.8
   TCO2
   37
   36
   34
   Glucose
   133
   180
   202
   159
   166
   159
   Other labs: PT / PTT / INR:21.1/43.6/2.0, ALT / AST:36/82, Alk Phos / T
   Bili:171/17.9, Amylase / Lipase:/32, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.2 g/dL, LDH:467 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Micro: B cxrs [**11-28**]/, [**11-30**], [**12-1**] pending;  U cxr [**11-28**] - no growth, U
   cxr [**11-30**], [**12-1**]
 no growth;  [**11-28**] sputum
 negative,
   [**11-30**] sputum
 pending, [**12-1**] sample not sufficient
   C diff neg x2
   Imaging:
   CXR [**12-3**]:
   FINDINGS: As compared to the previous radiograph, the patient has
   received a
   tracheostomy tube. The tip of the tube projects 3.8 cm above the
   carina.
   There is no evidence of complication, notably no pneumothorax.
   The other monitoring and support devices are in unchanged position.
   Extensive
   left more than right pleural effusion with subsequent areas of
   atelectasis.
   The visible parts of the cardiac silhouette are unchanged. Unchanged
   appearance of the lung parenchyma without interval occurrence of new
   opacities.
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Respiratory failure,: Likely pneumonia.  Patient growing enterobacter
   cloacae which is pan-sensitive.  Continues to spike, however, despite
   broad coverage with antibiotics.  ABG demonstrates respiratory acidosis
   with metabolic alkalosis.  Acute incident today was in the context of
   worsening secretions; could have had mucous plugging.  In addition
   enterobacter has inducible resistance, perhaps the patient is no longer
   responding to the therapy. s/p extubation on [**11-21**]. Pt has been
   intubated 4 times this hospitalization, without significant improvement
   in his mental status.   He will need trach/PEG placement, as at this
   point it is unlikely that his mental status will improve such that he
   will be able to protect his airway.
   - s/p trach placement yesterday
   - on minimal support -> wean to trach collar today
   - continue Meropenem x 14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - Continue Vanc 1g q12h D1 = [**12-1**], will d/c on [**12-6**] as well
   - f/u ID recs
   - diurese with Lasix PRN
   .
   # Fever: - Unclear etiology, however will treat for possible PNA, SBP.
   Likely due to drug fever.
   - C diff neg
   - RUQ US neg for cholecystitis
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - Continue Vanc 1g q12h D1 = [**12-1**], will d/c on [**12-6**] as well
   - Lipase nl
   - f/u ID recs
   - hold off on CT sinuses to look for sinusitis, will complete course of
   abx as above
   .
   # Hypernatremia:  Now resolved
   - Continue free water flushes
   - PM lytes
   .
   Stable/Non-active Issues:
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning.  On [**11-23**]
   patient had 2 units PRBC transfused without appropriate increase in
   hct, but no clear source of bleeding. CT head, torso yesterday ([**11-24**])
   showed no source of bleeding.
   - daily coags, HCT
   - transfuse as necessary
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - continue Dilantin 100mg [**Hospital1 **]
   - Will check Dilantin level prior to 4^th dose on [**12-4**] AM
   - Cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   .
   #. Altered mental status: Likely secondary to hypoxia--Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Stable.
   - Daily Hcts, coags as above
   - Guaiac all stools
   - Will monitor NGT output for bleeding
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is 28 ([**11-29**]). In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - will likely need EGD for varices at some point
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx.
   - needs out pt f/u
   .
   # FEN: On tubefeeds, 300cc free water flushes q4h. Replete lytes prn.
   Will need PEG placement at some point.
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code
   # Access: PICC line
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   # Dispo:  begin screening pt for rehab (will need LTAC)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-12-3**] 01:00 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Arterial Line - [**2156-11-28**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-04 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2156-12-3**] 10:30 AM
   - Lasix 80mg IV once in AM and another 80mg in PM
   - PM lytes/CBC: Hct stable at 23.9, Plts stable at 72, INR up to 2.2
   - weaned to trach collar
   - Dilantin level ordered for [**12-4**] AM
   - blood bank called about pt being Rh- and rec'd Rh+ plts, however, not
   a big deal since he is not a pregnant woman or a transplant candidate
   -> nothing to do
   Plt dropped this morning 72 to 52 over 12 hours
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Vancomycin - [**2156-12-3**] 08:34 AM
   Meropenem - [**2156-12-4**] 02:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-12-3**] 08:05 PM
   Furosemide (Lasix) - [**2156-12-4**] 03:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-4**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 87 (84 - 95) bpm
   BP: 140/69(90) {122/55(76) - 151/74(97)} mmHg
   RR: 14 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,986 mL
                                                                    750 mL
   PO:
             TF:
                                                                  1,567 mL
                                                                    512 mL
   IVF:
                                                                    750 mL
                                                                    179 mL
   Blood products:
                                                                    444 mL
   Total out:
                                                                  2,230 mL
                                                                  1,115 mL
   Urine:
                                                                  1,130 mL
                                                                  1,115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,756 mL
                                                                   -365 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 525 (442 - 525) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 1.1 L/min
   Physical Examination
   GEN
 nad, unresponsive to verbal/tactile stimuli, shaking head
   side-to-side spontaneously
   CV
 rrr, no murmurs
   PULM
 trach sounds with gurgle; oozing at trach
   ABD
 distended, non-tender
   EXTR
 1+ edema b/l
   Labs / Radiology
   52 K/uL
   8.6 g/dL
   159 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.0 mEq/L
   37 mg/dL
   102 mEq/L
   138 mEq/L
   24.4 %
   5.9 K/uL
        [image002.jpg]
                            [**2156-12-1**]  02:51 AM
                            [**2156-12-1**]  03:20 AM
                            [**2156-12-1**]  04:07 PM
                            [**2156-12-2**]  03:31 AM
                            [**2156-12-2**]  03:46 AM
                            [**2156-12-2**]  10:35 AM
                            [**2156-12-2**]  07:00 PM
                            [**2156-12-3**]  05:06 AM
                            [**2156-12-3**]  05:45 PM
                            [**2156-12-4**]  03:53 AM
   WBC
   5.6
   6.1
   5.7
   6.2
   6.5
   5.9
   Hct
   21.9
   20.0
   20.3
   23.8
   23.9
   24.4
   Plt
   38
   37
   63
   86
   73
   72
   52
   Cr
   0.6
   0.5
   0.5
   0.9
   0.8
   0.8
   0.6
   TCO2
   36
   34
   Glucose
   180
   202
   159
   166
   159
   168
   159
   Other labs: PT / PTT / INR:24.4/48.9/2.3, ALT / AST:32/70, Alk Phos / T
   Bili:193/15.8, Amylase / Lipase:/32, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:119 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:472 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   LFT
s all approx stable
   Phenytoin 21.0 this morning
   Vanco 33.7 yesterday morning
   C.diff 23^rd and 25^th both negative.
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Respiratory failure,: Likely pneumonia.  Patient growing enterobacter
   cloacae which is pan-sensitive.  Continues to spike, however, despite
   broad coverage with antibiotics.  ABG demonstrates respiratory acidosis
   with metabolic alkalosis.  Acute incident today was in the context of
   worsening secretions; could have had mucous plugging.  In addition
   enterobacter has inducible resistance, perhaps the patient is no longer
   responding to the therapy. s/p extubation on [**11-21**]. Pt has been
   intubated 4 times this hospitalization, without significant improvement
   in his mental status.   He will need trach/PEG placement, as at this
   point it is unlikely that his mental status will improve such that he
   will be able to protect his airway.
   - s/p trach placement on [**12-2**]
   - continue on trach collar
   - continue Meropenem x 14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - Continue Vanc 1g q12h D1 = [**12-1**], will d/c on [**12-6**] as well; recheck
   vanc level this morning
   - f/u ID recs
   - diurese with Lasix 160 and spironolactone 200 today; goal >1L
   negative today
   .
   # Fever: - Unclear etiology, however will treat for possible PNA, SBP.
   Likely due to drug fever. C diff neg. RUQ US neg for cholecystitis
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - Continue Vanc 1g q12h D1 = [**12-1**], will d/c on [**12-6**] as well
   - f/u ID recs
   - hold off on CT sinuses to look for sinusitis, will complete course of
   abx as above
   .
   # Hypernatremia:  Now resolved
   - Discontinue free water flushes
   .
   Stable/Non-active Issues:
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning.  On [**11-23**]
   patient had 2 units PRBC transfused without appropriate increase in
   hct, but no clear source of bleeding. CT head, torso yesterday ([**11-24**])
   showed no source of bleeding.
   - daily coags, HCT
   - transfuse as necessary
   - 1 unit platelets this AM for plt drop 72 to 52
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - continue Dilantin 100mg [**Hospital1 **]
   - check tomorrow morning
s dilantin level
   - Cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   .
   #. Altered mental status: Likely secondary to hypoxia--Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Stable.
   - Daily Hcts, coags as above
   - Guaiac all stools
   - Will monitor NGT output for bleeding
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is 28 ([**11-29**]). In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - will likely need EGD for varices at some point
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx.
   - needs out pt f/u
   .
   # FEN: On tubefeeds. Replete lytes prn.  Will need PEG placement at
   some point (holding while febrile and coagulopathic).
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code
   # Access: PICC line
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   # Dispo:  begin screening pt for rehab (will need LTAC)  - goal to get
   to LTAC soon.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-12-4**] 01:03 AM 65 mL/hour
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Arterial Line - [**2156-11-28**] 01:00 PM
   Code status: Full code

2156-12-05 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: subdural hematoma, ESLD, altered mental status
   24 Hour Events:
   - transfused 1 unit platelets; oozing @ trach site (and then
   coughing/suctioning up blood) - given 3 FFP o/n (INR improved then
   worsened afterwards back to where it was)
   - started 160 lasix and 200 spironolactone daily
   - dilantin level [**12-5**] AM
   Allergies:
   Citalopram shakiness reso
   Last dose of Antibiotics:
   Vancomycin - [**2156-12-3**] 08:34 AM
   Meropenem - [**2156-12-5**] 02:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-12-4**] 08:13 PM
   Other medications:
   Flowsheet Data as of  [**2156-12-5**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38
C (100.4
   HR: 88 (88 - 101) bpm
   BP: 119/55(74) {119/49(73) - 159/74(99)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.1 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,827 mL
                                                                    712 mL
   PO:
             TF:
                                                                  1,564 mL
                                                                    466 mL
   IVF:
                                                                    581 mL
                                                                    186 mL
   Blood products:
                                                                  1,102 mL
   Total out:
                                                                  4,175 mL
                                                                  1,650 mL
   Urine:
                                                                  3,525 mL
                                                                    550 mL
   NG:
   Stool:
                                                                    650 mL
                                                                  1,100 mL
   Drains:
   Balance:
                                                                   -348 mL
                                                                   -938 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   GEN
 nad, responsive to verbal/tactile stimuli
   CV
 RRR, no murmurs
   PULM
 ; oozing at trach
   ABD
 distended, non-tender, +BS
   EXTR
  edema b/l
   Labs / Radiology
   76 K/uL
   8.2 g/dL
   156 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.7 mEq/L
   33 mg/dL
   102 mEq/L
   142 mEq/L
   24.8 %
   6.0 K/uL
        [image002.jpg]
                            [**2156-12-1**]  04:07 PM
                            [**2156-12-2**]  03:31 AM
                            [**2156-12-2**]  03:46 AM
                            [**2156-12-2**]  10:35 AM
                            [**2156-12-2**]  07:00 PM
                            [**2156-12-3**]  05:06 AM
                            [**2156-12-3**]  05:45 PM
                            [**2156-12-4**]  03:53 AM
                            [**2156-12-4**]  11:38 PM
                            [**2156-12-5**]  02:55 AM
   WBC
   6.1
   5.7
   6.2
   6.5
   5.9
   5.8
   6.0
   Hct
   20.0
   20.3
   23.8
   23.9
   24.4
   23.6
   24.8
   Plt
   37
   63
   86
   73
   72
   52
   74
   76
   Cr
   0.5
   0.5
   0.9
   0.8
   0.8
   0.6
   0.6
   TCO2
   34
   Glucose
   [**Telephone/Fax (3) 10083**]59
   168
   159
   156
   Other labs: PT / PTT / INR:24.8/51.8/2.4, ALT / AST:26/60, Alk Phos / T
   Bili:200/14.6, Amylase / Lipase:/32, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:119 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:440 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: Phenytoin: 20.5 (corrected 123.5); Vanco:
   11.6
   Imaging: None new
   Microbiology: None new
   Assessment and Plan
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Respiratory failure: Pt initially had pneumonia and was growing
   enterobacter cloacae which is pan-sensitive.  He continued to spike,
   however, despite broad coverage with antibiotics.  ABG demonstrates
   respiratory acidosis with metabolic alkalosis.  Acute incident today
   was in the context of worsening secretions; could have had mucous
   plugging.  In addition enterobacter has inducible resistance, perhaps
   the patient is no longer responding to the therapy. s/p extubation on
   [**11-21**]. Pt has been intubated 4 times this hospitalization, without
   significant improvement in his mental status.   He will need trach/PEG
   placement, as at this point it is unlikely that his mental status will
   improve such that he will be able to protect his airway.
   - s/p trach placement on [**12-2**]
   - continue on trach collar
   - continue Meropenem x 14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - Continue Vanc 1g q12h D1 = [**12-1**], will d/c on [**12-6**] as well; recheck
   vanc level this morning
   - f/u ID recs
   - diurese with Lasix 160 and spironolactone 200 today; goal >1L
   negative today
   .
   # Fever: - Unclear etiology, however will treat for possible PNA, SBP.
   Likely due to drug fever. C diff neg. RUQ US neg for cholecystitis
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c after [**12-6**]
   - Continue Vanc 1g q12h D1 = [**12-1**], will d/c on [**12-6**] as well
   - f/u ID recs
   - hold off on CT sinuses to look for sinusitis, will complete course of
   abx as above
   .
   # Hypernatremia:  Now resolved
   - Discontinue free water flushes
   .
   Stable/Non-active Issues:
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning.  On [**11-23**]
   patient had 2 units PRBC transfused without appropriate increase in
   hct, but no clear source of bleeding. CT head, torso yesterday ([**11-24**])
   showed no source of bleeding.
   - daily coags, HCT
   - transfuse as necessary
   - 1 unit platelets this AM for plt drop 72 to 52
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - continue Dilantin 100mg [**Hospital1 **]
   - check tomorrow morning
s dilantin level
   - Cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   .
   #. Altered mental status: Likely secondary to hypoxia--Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Stable.
   - Daily Hcts, coags as above
   - Guaiac all stools
   - Will monitor NGT output for bleeding
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is 28 ([**11-29**]). In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - will likely need EGD for varices at some point
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx.
   - needs out pt f/u
   .
   # FEN: On tubefeeds. Replete lytes prn.  Will need PEG placement at
   some point (holding while febrile and coagulopathic).
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code
   # Access: PICC line
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   # Dispo:  begin screening pt for rehab (will need LTAC)  - goal to get
   to LTAC soon.

2156-12-06 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - held dilantin x 2 doses, as pt's levels were elevated at 21
   (corrected 27.6) and 18.4 (corrected 24.2) - Goal = [**9-28**]. Can re-start
   in AM.
   - monitoring oozing from trach and [**Hospital1 **] HCTs - stable.
   - consulted both hepatology/GI and transplant surgery today to place
   PEG or G-tube and both refused [**1-12**] pt is too high risk w. his ascites
   and coagulopathy (likely complications include failure to heal,
   leakage, and infection).
   - placed order for Dobhoff placement by IR.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Vancomycin - [**2156-12-5**] 09:00 PM
   Meropenem - [**2156-12-6**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-12-5**] 10:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-6**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.7
   HR: 86 (83 - 95) bpm
   BP: 99/46(59) {99/46(59) - 137/66(84)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.1 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,154 mL
                                                                    181 mL
   PO:
             TF:
                                                                  1,554 mL
   IVF:
                                                                    980 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                    400 mL
   Urine:
                                                                  2,900 mL
                                                                    400 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                   -846 mL
                                                                   -219 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   68 K/uL
   8.2 g/dL
   125 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.6 mEq/L
   28 mg/dL
   103 mEq/L
   144 mEq/L
   25.2 %
   5.3 K/uL
        [image002.jpg]
                            [**2156-12-2**]  03:46 AM
                            [**2156-12-2**]  10:35 AM
                            [**2156-12-2**]  07:00 PM
                            [**2156-12-3**]  05:06 AM
                            [**2156-12-3**]  05:45 PM
                            [**2156-12-4**]  03:53 AM
                            [**2156-12-4**]  11:38 PM
                            [**2156-12-5**]  02:55 AM
                            [**2156-12-5**]  08:02 PM
                            [**2156-12-6**]  03:32 AM
   WBC
   5.7
   6.2
   6.5
   5.9
   5.8
   6.0
   5.3
   Hct
   20.3
   23.8
   23.9
   24.4
   23.6
   24.8
   26.1
   25.2
   Plt
   63
   86
   73
   72
   52
   74
   76
   68
   Cr
   0.9
   0.8
   0.8
   0.6
   0.6
   0.6
   TCO2
   34
   Glucose
   166
   159
   168
   159
   156
   125
   Other labs: PT / PTT / INR:24.9/50.4/2.4, ALT / AST:26/54, Alk Phos / T
   Bili:185/13.8, Amylase / Lipase:/32, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:119 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL, LDH:404 IU/L, Ca++:9.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Respiratory failure: Pt initially had pneumonia and was growing
   enterobacter cloacae which is pan-sensitive.  He continued to spike,
   however, despite broad coverage with antibiotics.  ABG demonstrates
   respiratory acidosis with metabolic alkalosis.  Acute incident leading
   to last ICU transfer was in the context of worsening secretions; could
   have had mucous plugging.  In addition enterobacter has inducible
   resistance, perhaps the patient is no longer responding to the therapy.
   s/p extubation on [**11-21**]. Pt has been intubated 4 times this
   hospitalization, without significant improvement in his mental
   status.   He will need trach/PEG placement, as at this point it is
   unlikely that his mental status will improve such that he will be able
   to protect his airway.
   - s/p trach placement on [**12-2**]
   - continue on trach collar
   - continue Meropenem x 14 day course, D1 = [**11-21**], d/c after last dose
   today
   - Continue Vanc 1g q12h D1 = [**12-1**], d/c after last dose today
   - f/u ID recs
   - diurese with Lasix 160 and spironolactone 200 today; goal >1L
   negative today
   .
   # Fever: - Unclear etiology, however will complete ABX as above.
   Leading hypothesis had been drug fever. C diff neg. RUQ US neg for
   cholecystitis
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c today as above
   - Continue Vanc 1g q12h D1 = [**12-1**], will d/c today as above
   - f/u ID recs
   - hold off on CT sinuses to look for sinusitis, will complete course of
   abx as above
   .
   # Hypernatremia:  Now resolved
   - Discontinue free water flushes
   .
   Stable/Non-active Issues:
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning.  On [**11-23**]
   patient had 2 units PRBC transfused without appropriate increase in
   hct, but no clear source of bleeding. CT head, torso yesterday ([**11-24**])
   showed no source of bleeding.
   - daily coags, HCT
   - transfuse as necessary
   - 1 unit platelets this AM for plt drop 72 to 52
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - continue Dilantin 100mg [**Hospital1 **]
   - check tomorrow morning
s dilantin level
   - Cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   .
   #. Altered mental status: Likely secondary to hypoxia--Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Stable.
   - Daily Hcts, coags as above
   - Guaiac all stools
   - Will monitor NGT output for bleeding
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is 28 ([**11-29**]). In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - will likely need EGD for varices at some point
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx.
   - needs out pt f/u
   .
   # FEN: On tubefeeds. Replete lytes prn.  Will need PEG placement at
   some point (holding while febrile and coagulopathic).
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code
   # Access: PICC line
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   # Dispo:  begin screening pt for rehab (will need LTAC)  - goal to get
   to LTAC soon.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-07 06:30:00 Physician Resident Progress Note
Chief Complaint: 47 yom with ESLD [**1-12**] ETOH abuse with complicated
   hospital course c/b fall resulting in parafalcine SDH and right IPH.
   24 Hour Events:
   - Lasix IV 80mg Once, I/Os  -1700 mL yesterday, still remains + 21,161
   over LOS in ICU
   - Bicarb elevated, started Diamox 250mg Q 6hrs for 48 hours.
   - Dobhoff placed, Tube Feeds restarted.
   - Passy muir valve, evaluated by speech and swallow, given bloody
   secretions from trach and altered mental status did not believe patient
   is good candidate at this time. Will reassess at later date.
   - Vancomycin/Meropenum stopped [**12-6**] for complete course treating VAP.
   - Temp >101, blood cultures sent, no antibiotics restarted. Thought
   fevers drug related.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Vancomycin - [**2156-12-6**] 08:38 AM
   Meropenem - [**2156-12-6**] 08:45 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-12-6**] 03:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-7**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.6
   HR: 89 (87 - 101) bpm
   BP: 111/65(75) {104/38(53) - 138/95(99)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.1 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  1,478 mL
                                                                    876 mL
   PO:
             TF:
                                                                    578 mL
                                                                    419 mL
   IVF:
                                                                    720 mL
                                                                     32 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  1,210 mL
   Urine:
                                                                  2,900 mL
                                                                    410 mL
   NG:
   Stool:
   800 mL
   Drains:
   Balance:
                                                                 -1,422 mL
                                                                   -334 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///36/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   49 K/uL
   8.6 g/dL
   156 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.5 mEq/L
   30 mg/dL
   104 mEq/L
   147 mEq/L
   26.7 %
   5.3 K/uL
        [image002.jpg]
                            [**2156-12-2**]  10:35 AM
                            [**2156-12-2**]  07:00 PM
                            [**2156-12-3**]  05:06 AM
                            [**2156-12-3**]  05:45 PM
                            [**2156-12-4**]  03:53 AM
                            [**2156-12-4**]  11:38 PM
                            [**2156-12-5**]  02:55 AM
                            [**2156-12-5**]  08:02 PM
                            [**2156-12-6**]  03:32 AM
                            [**2156-12-7**]  01:47 AM
   WBC
   5.7
   6.2
   6.5
   5.9
   5.8
   6.0
   5.3
   5.3
   Hct
   20.3
   23.8
   23.9
   24.4
   23.6
   24.8
   26.1
   25.2
   26.7
   Plt
   63
   86
   73
   72
   52
   74
   76
   68
   49
   Cr
   0.9
   0.8
   0.8
   0.6
   0.6
   0.6
   0.7
   Glucose
   166
   159
   168
   159
   156
   125
   156
   Other labs: PT / PTT / INR:26.0/53.2/2.5, ALT / AST:25/53, Alk Phos / T
   Bili:174/14.8, Amylase / Lipase:/32, Differential-Neuts:70.3 %,
   Band:0.0 %, Lymph:17.1 %, Mono:7.1 %, Eos:5.3 %, Fibrinogen:119 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL, LDH:404 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Microbiology
   - [**12-5**]: IV catheter tip
 no significant growth
   - [**12-6**]: blood culture
 pending
   - [**12-7**]: blood culture
 pending
   Imaging
   - No new imaging
   Assessment and Plan
   46M w/ ESLD w/ ascites, varices and encephalopathy; prolonged hospital
   course c/b trauma with IP bleed, SDH, pneumonia, encephalopathy and
   recurrent respiratory failure, now s/p trach and dobhoff placement.
   .
   # Respiratory failure: likely combination of VAP with enterobacter,
   mucus plugging, poor mental status and volume overload, now s/p trach
   placement ([**12-2**]) and completed 14 day course for VAP.
   - Diuresis: lasix 160 mg NG daily, Aldactone 200 NG daily and lasix 80
   mg IV daily (or switch to lasix 200 mg NG daily) and continue
   acetazolamide 250 NG q6 for 1 more day for elevated HCO3
 goal > - 1L
   - continue trach collar with suctioning goal SpO2 > 92 %
   .
   # Fever: continued daily spike (last
   Unclear etiology, however will complete ABX as above. Leading
   hypothesis had been drug fever. C diff neg. RUQ US neg for
   cholecystitis
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c today as above
   - Continue Vanc 1g q12h D1 = [**12-1**], will d/c today as above
   - f/u ID recs
   - hold off on CT sinuses to look for sinusitis, will complete course of
   abx as above
   .
   # Hypernatremia:  Now resolved
   - Discontinue free water flushes
   .
   Stable/Non-active Issues:
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning.  On [**11-23**]
   patient had 2 units PRBC transfused without appropriate increase in
   hct, but no clear source of bleeding. CT head, torso yesterday ([**11-24**])
   showed no source of bleeding.
   - daily coags, HCT
   - transfuse as necessary
   - 1 unit platelets this AM for plt drop 72 to 52
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - continue Dilantin 100mg [**Hospital1 **]
   - Cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   .
   #. Altered mental status: Likely secondary to intraparenchymal
   hemorrhage and hepatic encephalopathy. The patient has known
   decompensated liver disease with a previous history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Stable.
   - Daily Hcts, coags as above
   - Guaiac all stools
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is 28 ([**11-29**]). In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - will likely need EGD for varices at some point
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx.
   - needs out pt f/u
   .
   # FEN: On tubefeeds. Replete lytes prn.  Will need PEG placement at
   some point (holding while febrile and coagulopathic).
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code
   # Access: PICC line
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   # Dispo:  begin screening pt for rehab (will need LTAC)  - goal to get
   to LTAC soon.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-12-7**] 03:40 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-08 06:03:00 Physician Resident Progress Note
Chief Complaint:  47 yom with ESLD [**1-12**] ETOH abuse with complicated
   hospital course c/b fall resulting in parafalcine SDH and right IPH.
   24 Hour Events:
   - Lasix IV 80mg once, I/O's + 1.3 L in 24 hours. Repeated at 23:30 (80
   mg IV).
   - Diamox kept at 250 QID for goal HCO3 < 30, per pharmacy recs - they
   suggested giving at least 24 hours trial at this dose before changing
   strategy (1500 total per day maximum and may be more effective if every
   other day).
   - Urine culture, sputum culture sent
   - Given platelet, FFP, vitamin K: platelets from 49 -> 71 -> 63 and INR
   2.5 -> 2.0
   - Accepted at [**Hospital1 664**], [**Location (un) 5865**]
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Vancomycin - [**2156-12-6**] 08:38 AM
   Meropenem - [**2156-12-6**] 08:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-12-7**] 08:12 AM
   Furosemide (Lasix) - [**2156-12-8**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-8**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 97 (82 - 103) bpm
   BP: 121/54(71) {107/33(45) - 137/66(81)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.6 kg (admission): 80.8 kg
   Height: 72 Inch
                  Total In:
                                                                  4,821 mL
                                                                    506 mL
   PO:
                  TF:
                                                                  1,578 mL
                                                                    396 mL
   IVF:
                                                                    115 mL
   Blood products:
                                                                  1,143 mL
   Total out:
                                                                  3,405 mL
                                                                  1,000 mL
   Urine:
                                                                  2,405 mL
                                                                  1,000 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  1,416 mL
                                                                   -494 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 89%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   63 K/uL
   8.0 g/dL
   154 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.5 mEq/L
   27 mg/dL
   102 mEq/L
   146 mEq/L
   25.0 %
   4.7 K/uL
        [image002.jpg]
                            [**2156-12-3**]  05:06 AM
                            [**2156-12-3**]  05:45 PM
                            [**2156-12-4**]  03:53 AM
                            [**2156-12-4**]  11:38 PM
                            [**2156-12-5**]  02:55 AM
                            [**2156-12-5**]  08:02 PM
                            [**2156-12-6**]  03:32 AM
                            [**2156-12-7**]  01:47 AM
                            [**2156-12-7**]  08:44 PM
                            [**2156-12-8**]  01:54 AM
   WBC
   6.2
   6.5
   5.9
   5.8
   6.0
   5.3
   5.3
   4.2
   4.7
   Hct
   23.8
   23.9
   24.4
   23.6
   24.8
   26.1
   25.2
   26.7
   25.0
   25.0
   Plt
   73
   72
   52
   74
   76
   68
   49
   71
   63
   Cr
   0.8
   0.8
   0.6
   0.6
   0.6
   0.7
   0.6
   Glucose
   159
   168
   159
   156
   125
   156
   154
   Other labs: PT / PTT / INR:21.7/46.6/2.0, ALT / AST:25/53, Alk Phos / T
   Bili:174/14.8, Amylase / Lipase:/32, Differential-Neuts:70.3 %,
   Band:0.0 %, Lymph:17.1 %, Mono:7.1 %, Eos:5.3 %, Fibrinogen:119 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL, LDH:404 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Microbiology
   - [**12-7**]: Stool
 C.Diff negative
   - [**12-7**]: Sputum
 contaminated
   - [**12-7**]: Urine
 pending
   - [**12-7**]: Blood
 pending
   - [**12-6**]: Blood
 pending
   Radiology
   - [**12-8**]
 new CXR
   Assessment and Plan
   46 M w/ ESLD w/ ascites, varices and encephalopathy; prolonged hospital
   course c/b trauma with IP bleed, SDH, pneumonia, encephalopathy and
   recurrent respiratory failure, now s/p trach and dobhoff placement.
   .
   # Respiratory failure: likely combination of VAP with enterobacter,
   mucus plugging, poor mental status and volume overload, now s/p trach
   placement ([**12-2**]) and completed 14 day course for VAP.  Patient with
   substantial airway secretions.
   - diuresis: Lasix 80 mg IV boluses and Acetazolamide 500 mg IV TID for
   goal of  -2L and HCO3 < 30.
   - c/w IP re: bleeding trach and mucus plugging with left lung collapse,
   will likely require bronchoscopy vs. amicar
   continue trach collar with suctioning goal SpO2 > 92 %
   .
   # Fever: low grade fever to 100.7 at 06:11, no clear source of
   infection
   - f/u blood and urine cultures
   - trend fever curve
 expected to trend down in setting of drug induced
   fever
   .
   Stable/Non-active Issues:
   .
   # ICH: right IPH and paralfalcine SDH after multiple trauma, stable
   serial imaging; dilantin dosing goal 15-20 with current corrected level
   at 19.1
   - monitoring: daily neurological exams, daily CBC and coags,  fall
   precautions
   - seizure prophylaxis: continue Dilantin 100 mg [**Hospital1 **] with monitoring of
   daily levels
   - f/u w/ Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT. Call
   [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of
     the [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   # Coagulopathy: likely [**1-12**] hepatic dysfunction, now s/p reversal with 1
   unit platelets and 3 units FFP with platelets from 49 -> 71 -> 63 and
   INR 2.5 -> 2.0, HCT remains stable
   - guiac stools
   - monitor tracheal secretions
   - transfuse platelets goal > 50,000
   - consider amicar
   .
   #. Altered mental status: likely [**1-12**] intraparenchymal hemorrhage and
   hepatic encephalopathy
   - lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. ESLD: [**1-12**] ETOH, negative viral serologies,
   - continue Tx for encephalopathy as discussed above
   .
   #. Transverse Process Fractures: non-operative with C-collar or LR
   precautions
   .
   # FEN: tube feeds per nutrition recs, PM  lytes
   .
   # PPX: IV PPI [**Hospital1 **], SCD
   .
   # CODE: Full code
   .
   # Access: power PICC line ([**11-27**])
   .
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   .
   # Dispo: likely to long term care facility tomorrow

2156-12-09 05:40:00 Physician Resident Progress Note
Chief Complaint: 47 yom with ESLD [**1-12**] ETOH abuse with complicated
   hospital course c/b fall resulting in parafalcine SDH and right IPH.
   24 Hour Events:
   - IV Lasix and Diamox started with I/O @ 21:30 of -294, rebolused Lasix
   80 mg IV x 2, with I/O @  -1L
   - Fever spike to 101 @ 1800 and again to 101.2 @ 2300:  blood cx, UA
   and urine Cx and sputum Cx sent
   - IP deferred bronchoscopy and trach evaluation [**1-12**] TF's, patient TF
   now held after MN for AM procedure
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Vancomycin - [**2156-12-6**] 08:38 AM
   Meropenem - [**2156-12-6**] 08:45 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-12-9**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-9**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.8
C (100.1
   HR: 96 (86 - 101) bpm
   BP: 134/65(81) {109/45(61) - 142/80(91)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.6 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,553 mL
                                                                     80 mL
   PO:
             TF:
                                                                  1,513 mL
   IVF:
                                                                     80 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  2,725 mL
                                                                  1,000 mL
   Urine:
                                                                  2,725 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -172 mL
                                                                   -920 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 93%
   ABG: ///38/
   Physical Examination
   General: NAD, slight body tremor, not tracking, severe jaundice
   Heart: RRR, no MRG
   Lungs: coarse breath sounds throughout, decr. airflow on left
   Abdomen: soft, NTND, actively stooling
   Extremities: 2+ pitting edema bil. U and [**Doctor First Name **]
   Labs / Radiology
   48 K/uL
   8.1 g/dL
   114 mg/dL
   0.7 mg/dL
   38 mEq/L
   3.4 mEq/L
   29 mg/dL
   103 mEq/L
   150 mEq/L
   25.8 %
   4.2 K/uL
        [image002.jpg]
                            [**2156-12-4**]  03:53 AM
                            [**2156-12-4**]  11:38 PM
                            [**2156-12-5**]  02:55 AM
                            [**2156-12-5**]  08:02 PM
                            [**2156-12-6**]  03:32 AM
                            [**2156-12-7**]  01:47 AM
                            [**2156-12-7**]  08:44 PM
                            [**2156-12-8**]  01:54 AM
                            [**2156-12-8**]  05:32 PM
                            [**2156-12-9**]  02:17 AM
   WBC
   5.9
   5.8
   6.0
   5.3
   5.3
   4.2
   4.7
   4.2
   Hct
   24.4
   23.6
   24.8
   26.1
   25.2
   26.7
   25.0
   25.0
   25.7
   25.8
   Plt
   52
   74
   76
   68
   49
   71
   63
   48
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   0.7
   Glucose
   159
   156
   125
   156
   154
   171
   114
   Other labs: PT / PTT / INR:25.7/50.7/2.5, ALT / AST:25/53, Alk Phos / T
   Bili:174/14.8, Amylase / Lipase:/32, Differential-Neuts:70.3 %,
   Band:0.0 %, Lymph:17.1 %, Mono:7.1 %, Eos:5.3 %, Fibrinogen:119 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL, LDH:404 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Microbiology
   - [**12-9**]: sputum
 pending
   - [**12-8**]: blood
 pending x 2
   - [**12-8**]: urine
 pending
   - [**12-7**]: urine
 pending
   - [**12-7**]: blood
 pending
   - [**12-6**]: blood
 pending
   Radiology
   - [**12-8**]: CXR
 inc. pleural effusion on left with almost entirely
   airless left lung, stable right pleural effusion with possible basilar
   consolidation
   - [**12-9**]: CXR
 new imaging
   Assessment and Plan
   46 yom w/ ESLD c/b ascites, varices and encephalopathy and prolonged
   hosp. course c/b trauma with IP bleed, SDH, pneumonia and
   encephalopathy and recurrent bouths of respiratory failure, now with
   constantly oozing trach and likely continuous aspiration of bloody
   secretions.
   .
   # Respiratory failure: combination mental status, mucus plugging and
   volume overload, now w/ oozing trach and likely continuous aspiration
   of bloody secretions, now w/ large L. pleural effusion with nearly
   absent aeration of left lung, likely representing combination of
   compression and plugging.
   - diuresis: continue Lasix 80 IV boluses and Acetazolamide 500 IV TID
   for goal -2L and HCO3 < 30
   - IP bronchoscopy and evaluation of bleeding trach
   - defer thoracentesis for now considering coagulopathy, will reassess
   with post-bronchoscopy CXR
   .
   # Fever: fever spikes overnight without clear source of infection, but
   likely collapsed left lung and chronic aspiration of bloody secretions
   is large contributor or etiology
   - f/u blood, urine and sputum cultures
   - f/u c.diff toxin assay
   - f/u BAL
   - bedside US to evaluate for ascites (possible SBP)
   .
   # ICH: right IPH and paralfalcine SDH after multiple trauma, stable
   serial imaging; dilantin dosing goal 15-20 with current corrected level
   at 19.1
   - monitoring: daily neurological exams, daily CBC and coags,  fall
   precautions
   - seizure prophylaxis: continue Dilantin 100 mg [**Hospital1 **] with monitoring of
   QOD levels
   - f/u w/ Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT. Call
   [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of
     the [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   # Coagulopathy: likely [**1-12**] hepatic dysfunction, now with falling
   platelets 63-48 and rising INR 2.5 but stable HCT
   - consider reversal for possible thoracentesis:  transfuse 1 unit
   platelets to goal > 50,000, 2 units FFP with goal INR 2.0
   .
   #. Altered mental status: likely [**1-12**] intraparenchymal hemorrhage and
   hepatic encephalopathy
   - lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. ESLD: [**1-12**] ETOH, negative viral serologies,
   - continue Tx for encephalopathy as discussed above
   .
   #. Transverse Process Fractures: non-operative with C-collar or LR
   precautions
   .
   # FEN: tube feeds held for procedure, 40 meq K+ in D5W for hypo Na+ and
   K+, increased FW flushes with TF once restarted
   .
   # PPX: IV PPI [**Hospital1 **], SCD
   .
   # CODE: Full code
   .
   # Access: power PICC line ([**11-27**])
   .
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   .
   # Dispo: ICU pending trach evaluation and post-bronchoscopy evaluation

2156-12-10 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypoxia, respiratory distress
   24 Hour Events:
 INVASIVE VENTILATION - START [**2156-12-9**] 09:35 AM
 BRONCHOSCOPY - At [**2156-12-9**] 10:25 AM
 STOOL CULTURE - At [**2156-12-9**] 11:00 AM
 INVASIVE VENTILATION - STOP [**2156-12-9**] 05:46 PM
   - Bronchoscopy: No active bleeding seen in oropharynx. Secretions seen
   Lingula and LLL. BAL in the lingula. Pt with bleeding after
   Bronchoscopy, transfused 2ffp and one platelets. HCT/Coags 1400 HCT
   24.8 at 1400. BAL culture pending.
   - sp Bronchoscopy was switched to CMV, transitioned back to trach mask
   without difficulty sp procedure.
   - Hypernatremia: Changed free water flush to 250cc Q4hrs.
   - After HCT stable sp Bronch, Furosemide 80mg IV Once.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Propofol - [**2156-12-9**] 10:44 AM
   Furosemide (Lasix) - [**2156-12-10**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-10**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.3
   HR: 101 (78 - 104) bpm
   BP: 135/57(74) {102/42(58) - 161/113(117)} mmHg
   RR: 20 (13 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 92.6 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,489 mL
                                                                    536 mL
   PO:
             TF:
                                                                    100 mL
                                                                    219 mL
   IVF:
                                                                    768 mL
                                                                     67 mL
   Blood products:
                                                                    811 mL
   Total out:
                                                                  3,660 mL
                                                                    920 mL
   Urine:
                                                                  3,260 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,171 mL
                                                                   -384 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Aerosol-cool, Trach mask
   SpO2: 96%
   ABG: ///36/
   Physical Examination
   General:  slight body tremor, not tracking, unresponsive to pain,
   bronzed skin
   HEENT: PERRL
   Heart: RRR, no 2/6 SEM throughout the precordium
   Lungs: coarse breath sounds throughout
   Abdomen: soft, NTND
   Extremities: 2+ pitting edema to thighs
   Labs / Radiology
   54 K/uL
   7.6 g/dL
   147 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.8 mEq/L
   28 mg/dL
   104 mEq/L
   147 mEq/L
   23.0 %
   4.2 K/uL
        [image002.jpg] phenytoin level 13.4
                            [**2156-12-6**]  03:32 AM
                            [**2156-12-7**]  01:47 AM
                            [**2156-12-7**]  08:44 PM
                            [**2156-12-8**]  01:54 AM
                            [**2156-12-8**]  05:32 PM
                            [**2156-12-9**]  02:17 AM
                            [**2156-12-9**]  02:10 PM
                            [**2156-12-9**]  05:20 PM
                            [**2156-12-9**]  08:56 PM
                             [**2156-12-10**]  02:47 AM
   WBC
   5.3
   5.3
   4.2
   4.7
   4.2
   4.2
   Hct
   25.2
   26.7
   25.0
   25.0
   25.7
   25.8
   24.8
   24.1
   23.0
   Plt
   68
   49
   71
   63
   48
   61
   54
   Cr
   0.6
   0.7
   0.6
   0.6
   0.7
   0.7
   Glucose
   125
   156
   154
   171
   114
   147
   Other labs: PT / PTT / INR:22.8/45.9/2.2, ALT / AST:25/53, Alk Phos / T
   Bili:174/14.8, Amylase / Lipase:/32, Differential-Neuts:70.3 %,
   Band:0.0 %, Lymph:17.1 %, Mono:7.1 %, Eos:5.3 %, Fibrinogen:119 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL, LDH:404 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   46 yom w/ ESLD c/b ascites, varices and encephalopathy and prolonged
   hosp. course c/b trauma with IP bleed, SDH, pneumonia and
   encephalopathy and recurrent bouths of respiratory failure, now with
   constantly oozing trach and likely continuous aspiration of bloody
   secretions.
   .
   # Respiratory failure: combination mental status, mucus plugging and
   volume overload. Bronch yesterday showed secretions, bleed in lingual
   with BAL, treated with epinephrine with no further episodes of bleeding
   o/n, however pt continues to have copious secretions.  CXR today shows
   worsening consolidations bilaterally, however pt clinically stable with
   no increased O2 requirement.  New fever is somewhat concerning for PNA,
   however WBC stable and pt is clinically stable at this time.  Given
   that recent abx course was completed for [**Last Name (LF) 6601**], [**First Name3 (LF) 116**] hold on further abx
   for now, proceed with diuresis, and consider restarting abx if pt shows
   any clinical deterioration.
   - Lasix 80 IV for goal -2L, hold acetazolamide for now
   - no further bronch given pt is clinically stable
   - hold on thoracentesis for now given that pt is high bleed risk
   - repeat CXR in AM
   - aggressive pulmonary toilet
   .
   # Fever: fever spikes overnight without clear source of infection, but
   likely collapsed left lung and chronic aspiration of bloody secretions
   is large contributor.  Also concern for infection of ascitic or pleural
   fluid
   - f/u blood, urine and sputum cultures
   - f/u c.diff toxin assay
   - f/u BAL cxs
   - bedside US to evaluate for ascites (possible SBP)
   - continue surveillance blood cxs
   .
   # ICH: right IPH and paralfalcine SDH after multiple trauma, stable
   serial imaging; dilantin dosing goal 15-20 with current corrected level
   at 19.1
   - monitoring: daily neurological exams, daily CBC and coags,  fall
   precautions
   - seizure prophylaxis: continue Dilantin 100 mg [**Hospital1 **] with monitoring of
   QOD levels
   - f/u w/ Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT. Call
   [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of
     the [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   # Hypernatremia: likely due to diuresis, improving with 250 cc free
   water flushes.
   - continue flushing tube feeds with free water
   - follow Na
   .
   # Coagulopathy: likely [**1-11**] hepatic dysfunction, crit and platelets
   relatively stable.  Pt given 2 units FFP/1 unit platelets yesterday
   prior to bronch with no further episodes of bleeding.
   - Will continue to follow crit/platelets/INR
   .
   #. Altered mental status: likely [**1-11**] intraparenchymal hemorrhage and
   hepatic encephalopathy
   - lactulose and rifaximin ([**2-11**] BM per day)
   - continue restraints
   .
   #. ESLD: [**1-11**] ETOH, negative viral serologies.  Also ? hemachromatosis
   given transferritin saturation >70 and ferritin >1000.
   - continue Tx for encephalopathy as discussed above
   - consider outpt liver biopsy for ? hemochromatosis
   .
   #. Transverse Process Fractures: non-operative
   .
   # FEN: tube feeds held for procedure, 40 meq K+ in D5W for hypo Na+ and
   K+, increased FW flushes with TF once restarted
   .
   # PPX: IV PPI [**Hospital1 **], SCD
   .
   # CODE: Full code
   .
   # Access: power PICC line ([**11-27**])
   .
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   .
   # Dispo: ICU pending trach evaluation and post-bronchoscopy evaluation
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-12-9**] 07:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Prophylaxis:
   DVT: SCDs,
   Stress ulcer: PPI
   VAP:  elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 48M ESLD, falls c/b ICH now s/p trach. Course
   c/b lingular bleed and ongoing trach ooze in the setting
   of coagulopathy / thrombocytopenia.  Was bronched by
   IP bronch yesterday w/ sig bleeding post-procedure.  Transfused plt
   and ffp with improvement.  Briefly on vent, then transitioned back
   to TC.
   Exam notable for Tm 100.6  BP 100-160 sys HR 70-100  RR 13  sat 96% on
   TM 50% . Thin M, icteric, eyes open spontaneously, not able to
   follow commands or interact. coarse BS b. RRR s1s2. Distended, +BS
   soft, 2+ dep/scrotal edema.
   Labs notable for WBC 4K, HCT 23, PLTs 54, INR 2.2, K+ 3.8, Cr 0.7.
   CXR: multifocal opacities, increased opacification of LUL,  b
   effusions.
   Agree with plan to manage respiratory failure / volume overload with
   continued diuresis with lasix, diamox, following urine outpt and
   lytes. Airway/lingular bleeding and probable aspiration of blood
   further contributing to worsening cxr appearance. He continues to have
   low grade temps, but his fio2 requirements have not changed
   significantly and he remains w/o leukocytosis, having recently
   completed antbx course for HAP/VAP on [**12-6**].  Will resend sputum,
   pan cxs, stool for c diff and differential holding on additional antbx
   at this time unless clinical decline.  Will us abd and perform dx para
   to eval possible SBP source, thouhg likely yeild given antbx.  Have
   considered possible therapeutic /dx [**Female First Name (un) 231**]. This would requrie
   significant reversal of coagulopathy which has been difficult in this
   pt.  As fever curve is down and there is no leukocytosis, would hold
   for now, noting that we suspect effusions are related to volume ol.
   His ICH / neuro status remains stable, and we continue dilantin. His
   encephalopathy is multifactorial, we continue lactulose and supportive
   care.  His hypernatremia is trending down with FW repletion. Remainder
   of plan as outlined above.  Continue to update family. ICU: Boots, PPI.
   Full code.
   Patient is critically ill
   Total time: 40 min
   Addendum:  no obvious fluid seen on bedside us to safely perform dx
   para,  Will hold on this.
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2156-12-10**] 07:25 PM ------

2156-12-11 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure, ICH, AMS
   24 Hour Events:
 BLOOD CULTURED - At [**2156-12-10**] 10:30 AM
   2 sets
 URINE CULTURE - At [**2156-12-10**] 10:30 AM
 FEVER - 101.6
F - [**2156-12-11**] 02:00 AM
   - Converted from trach mask to trach tube
   - Bright red blood per trachyostomy, but small amount. Lavage cleared
   quickly. Given 2 x FFP. IP came and were satisfied at stability.
   - Did not give more furosemide in context of bleeding last night
   - Persistently febrile at 101.6 - restarted vancomycin and meropenem
   (ID approval required) for empiric coverage of VAP
   Allergies:
   Citalopram shakiness reso
   Last dose of Antibiotics:
   Meropenem - [**2156-12-10**] 11:00 PM
   Vancomycin - [**2156-12-11**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-12-10**] 10:40 AM
   Pantoprazole (Protonix) - [**2156-12-10**] 08:15 PM
   Other medications:
   Flowsheet Data as of  [**2156-12-11**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.5
C (101.3
   HR: 101 (86 - 105) bpm
   BP: 120/59(72) {104/43(62) - 148/78(95)} mmHg
   RR: 20 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.6 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,324 mL
                                                                    709 mL
   PO:
             TF:
                                                                  1,030 mL
                                                                    435 mL
   IVF:
                                                                    475 mL
                                                                    274 mL
   Blood products:
                                                                    559 mL
   Total out:
                                                                  3,420 mL
                                                                    280 mL
   Urine:
                                                                  3,420 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -96 mL
                                                                    429 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Aerosol-cool, T-piece
   SpO2: 96%
   ABG: ///36/
   Physical Examination
   General:  tremulous, not tracking, responsive to voice, bronzed skin
   HEENT: PERRL
   Heart: RRR,  + SEM
   Lungs: coarse breath sounds throughout w. decr BS L>R
   Abdomen: + abd distension but fairly soft
   Extremities: 2+ pitting edema UE & LE
   Labs / Radiology
   52 K/uL
   7.2 g/dL
   163 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.9 mEq/L
   29 mg/dL
   105 mEq/L
   147 mEq/L
   22.5 %
   4.8 K/uL
        [image002.jpg]
                            [**2156-12-7**]  08:44 PM
                            [**2156-12-8**]  01:54 AM
                            [**2156-12-8**]  05:32 PM
                            [**2156-12-9**]  02:17 AM
                            [**2156-12-9**]  02:10 PM
                            [**2156-12-9**]  05:20 PM
                            [**2156-12-9**]  08:56 PM
                             [**2156-12-10**]  02:47 AM
                             [**2156-12-10**]  09:46 PM
                             [**2156-12-11**]  04:15 AM
   WBC
   4.2
   4.7
   4.2
   4.2
   4.8
   Hct
   25.0
   25.0
   25.7
   25.8
   24.8
   24.1
   23.0
   24.5
   22.5
   Plt
   71
   63
   48
   61
   54
   55
   52
   Cr
   0.6
   0.6
   0.7
   0.7
   0.8
   Glucose
   154
   171
   114
   147
   163
   Other labs: PT / PTT / INR:22.4/44.3/2.1, ALT / AST:23/49, Alk Phos / T
   Bili:166/16.2, Amylase / Lipase:/32, Differential-Neuts:70.3 %,
   Band:0.0 %, Lymph:17.1 %, Mono:7.1 %, Eos:5.3 %, Fibrinogen:119 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:358 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR [**12-11**] (my read): persistent bilat pleural effusions (L>R)
   CXR [**12-10**]: There is complete whiteout of the left chest due to
   increasing pleural effusion. There has also been increased effusion on
   the right side as well.  The position of the various lines and tubes is
   unchanged. IMPRESSION: Worsening appearance.
   Microbiology: BAL [**12-9**] cxr - NO GROWTH, <1000 CFU/ml prelim
   Last pos cxr [**11-20**] sputum - pan sensitive  ENTEROBACTER CLOACAE.
   SPARSE GROWTH. Multiple negative blood, urine, sputum cxrs, and
   negative c.diff since then.
   Assessment and Plan
   46 yom w/ ESLD c/b ascites, varices and encephalopathy and prolonged
   hosp. course c/b trauma with IP bleed, SDH, pneumonia and
   encephalopathy and recurrent bouths of respiratory failure, now with
   constantly oozing trach and likely continuous aspiration of bloody
   secretions.
   .
   # Respiratory failure: combination mental status, mucus plugging and
   volume overload. Bronch yesterday showed secretions, bleed in lingual
   with BAL, treated with epinephrine with no further episodes of bleeding
   o/n, however pt continues to have copious secretions.  CXR today shows
   worsening effusions bilaterally, however pt clinically stable with no
   increased O2 requirement.  Recurrence of fever is somewhat concerning
   for PNA, however WBC stable and pt is clinically stable at this time.
   Given that recent abx course was completed for [**Last Name (LF) 6601**], [**First Name3 (LF) 116**] hold on
   further abx for now, proceed with diuresis, and consider restarting abx
   if pt shows any clinical deterioration.
   - hold on thoracentesis for now given that pt is high bleed risk,
   although pt may need [**Female First Name (un) 231**] in the future given persistent fevers to r/o
   empyema; effusions are most likely volume overload, and not infectious,
   given bilaterality, lack of leukocytosis or inceased O2 requirement.
   - hold on antibiotics for now as above
   - Lasix 80 IV BID for goal -2L today
   - repeat CXR in AM
   - aggressive pulmonary toilet
   .
   # Fever: fever spikes overnight without clear source of infection, but
   likely collapsed left lung and chronic aspiration of bloody secretions
   is large contributor.  Also concern for infection of ascitic or pleural
   fluid
   - holding abxs and monitoring fever curve
   - f/u blood, urine and sputum cultures
   - f/u c.diff toxin assay
   - f/u BAL cxs
   - continue surveillance blood cxs
   - CT torso, sinuses to eval for abscess
   - UE and LE LENIs to eval for DVT
   .
   # ICH: right IPH and paralfalcine SDH after multiple trauma, stable
   serial imaging; dilantin dosing goal 15-20
   - monitoring: daily neurological exams, daily CBC and coags,  fall
   precautions
   - seizure prophylaxis: continue Dilantin 100 mg [**Hospital1 **] with monitoring of
   QOD levels
   - f/u w/ Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT. Call
   [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of
     the [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   # Hypernatremia: likely due to diuresis, diarrhea from lactulose
   - continue flushing tube feeds with free water
   - Pt
s free water deficit is 2.3L today, will give D5 at 170cc/hr for
   2000mLs to correct.
   - PM Na
   .
   # Coagulopathy: likely [**1-11**] hepatic dysfunction, HCT and platelets
   relatively stable.
   - Will continue to follow daily HCT/platelets/INR
   - Check PM HCT
   .
   #. Altered mental status: likely [**1-11**] intraparenchymal hemorrhage and
   hepatic encephalopathy
   - lactulose and rifaximin ([**2-11**] BM per day)
   - continue restraints
   .
   #. ESLD: [**1-11**] ETOH, negative viral serologies.  Also ? hemachromatosis
   given transferritin saturation >70 and ferritin >1000, although this
   was in the setting of multiple transfusions.
   - continue Tx for encephalopathy as discussed above
   - consider outpt liver biopsy for ? hemochromatosis
   .
   #. Transverse Process Fractures: non-operative
   .
   # FEN: re-start tube feeds
   .
   # PPX: IV PPI [**Hospital1 **], SCD
   .
   # CODE: Full code
   .
   # Access: power PICC line ([**11-27**])
   .
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   .
   # Dispo: ICU for now

2156-12-12 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2156-12-12**] 01:00 AM
 FEVER - 102.8
F - [**2156-12-12**] 12:00 AM
   - Prelim CT torso read: L lung almost entirely collapsed by pleural
   effusions, RLL collapsed as well. No evidence of empyema. No other
   infectious source.
   - Diuresis: PM I/O check positive 1294, but pt also received 2L D5.
   Gave an additional Lasix 80mg.
   - LENIs will be done on Sunday or Monday due to staffing.
   - spiked fever to 102.8, sent B cxrs
   - ? rheumatologic w/u for fever
   - pt coughing up copious [**Year (4 digits) 4948**] from trach, called IP to see patient,
   ordered 2U FFP, 2U PLT, 2U pRBCs for transfusion. Pt O2sats in high 80s
   on PSV, mildly tachycardic to around 100, BP stable at 130s/70s.
   Allergies:
   Citalopram shakiness reso
   Last dose of Antibiotics:
   Meropenem - [**2156-12-10**] 11:00 PM
   Vancomycin - [**2156-12-11**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-12-11**] 08:43 AM
   Furosemide (Lasix) - [**2156-12-11**] 08:36 PM
   Flowsheet Data as of  [**2156-12-12**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.3
C (100.9
   HR: 89 (89 - 108) bpm
   BP: 106/49(63) {106/48(63) - 135/73(86)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.6 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  5,511 mL
                                                                  1,057 mL
   PO:
             TF:
                                                                  1,157 mL
                                                                    458 mL
   IVF:
                                                                  2,514 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                  4,550 mL
                                                                  1,580 mL
   Urine:
                                                                  3,250 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    961 mL
                                                                   -523 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Aerosol-cool, T-piece
   SpO2: 97%
   ABG: ///35/
   Physical Examination
   General:  tremulous, not tracking, responsive to voice, bronzed skin
   HEENT: PERRL
   Heart: RRR,  + SEM
   Lungs: coarse breath sounds throughout w. decr BS L>R
   Abdomen: + abd distension but soft
   Extremities: 2+ pitting edema LE bilat, improved (trace to 1+) bilat UE
   Labs / Radiology
   35 K/uL
   7.0 g/dL
   156 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.7 mEq/L
   25 mg/dL
   100 mEq/L
   141 mEq/L
   21.2 %
   5.5 K/uL
        [image002.jpg]
                            [**2156-12-8**]  05:32 PM
                            [**2156-12-9**]  02:17 AM
                            [**2156-12-9**]  02:10 PM
                            [**2156-12-9**]  05:20 PM
                            [**2156-12-9**]  08:56 PM
                             [**2156-12-10**]  02:47 AM
                             [**2156-12-10**]  09:46 PM
                             [**2156-12-11**]  04:15 AM
                             [**2156-12-11**]  03:56 PM
                             [**2156-12-12**]  02:18 AM
   WBC
   4.2
   4.2
   4.8
   5.5
   Hct
   25.7
   25.8
   24.8
   24.1
   23.0
   24.5
   22.5
   21.8
   21.2
   Plt
   48
   61
   54
   55
   52
   41
   35
   Cr
   0.6
   0.7
   0.7
   0.8
   0.6
   0.9
   Glucose
   171
   114
   147
   163
   144
   156
   Other labs: PT / PTT / INR:25.9/48.6/2.5, ALT / AST:23/50, Alk Phos / T
   Bili:169/15.6, Amylase / Lipase:/32, Differential-Neuts:74.1 %,
   Band:0.0 %, Lymph:14.9 %, Mono:6.5 %, Eos:4.2 %, Fibrinogen:119 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:370 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: SED-Rate: 16, CRP pending
   Imaging: CXR [**12-12**] (my read) - cont'd bilat pleural effusions (L>R)
   Microbiology: None new
   Assessment and Plan
   46 yoM w/ ESLD c/b ascites, varices and encephalopathy and prolonged
   hosp. course c/b trauma with IP bleed, SDH, pneumonia and
   encephalopathy and recurrent bouts of respiratory failure [**1-11**] inability
   to protect airway, now with trach and dobhoff placed.
   .
   # Respiratory failure: combination mental status, mucus plugging and
   volume overload. Bronch showed secretions, bleed in lingula with BAL,
   treated with epinephrine with reduced bleeding until this AM,
   Recurrence of fever is somewhat concerning for PNA, however WBC stable
   and pt is clinically stable at this time.  Given that recent abx course
   was completed for [**Last Name (LF) 6601**], [**First Name3 (LF) 116**] hold on further abx for now, proceed with
   diuresis, and consider restarting abx if pt shows any clinical
   deterioration.
   - hold on thoracentesis for now given that pt is high bleed risk,
   although pt may need [**Female First Name (un) 231**] in the future given persistent fevers to r/o
   empyema; effusions are most likely volume overload, and not infectious,
   given bilaterality, lack of leukocytosis or inceased O2 requirement.
   - given copious bleeding from trach this AM, transfusing blood products
   as above, and re-consulting IP for bronchoscopy. Will follow up their
   recs.
   - hold on antibiotics for now as above
   - will hold on diuresis this AM given bleeding. Can re-start in the PM
   if pt stabilized.
   - repeat CXR in AM
   - aggressive pulmonary toilet
   .
   # Tracheostomy bleeding
   - Transfusion of 2U pRBCs, 2U PLTs, 2U FFP, 1U Cryo.
   - Will check FDP, fibrinogen to evaluate for DIC
   - Spoke with IP and will see the pt this AM for repeat bronchoscopy to
   try to localize site of bleeding and achieve hemostasis.
   - Re-check CBC, coags after transfusions.
   .
   # Fever: fever spikes overnight without clear source of infection,
   would like to do [**Female First Name (un) 231**] but unable to do so given pt
s coagulopathy. CT
   torso, sinuses without source. All cultures and C. diff negative since
   [**11-20**].
   - holding abxs and monitoring fever curve
   - f/u blood, urine and sputum final cultures
   - f/u final BAL cxs
   - continue surveillance blood cxs
   - CT torso, sinuses without obvious source of infection, but will
   follow up final read.
   - UE and LE LENIs to eval for DVT
   .
   # ICH: right IPH and paralfalcine SDH after multiple trauma, stable
   serial imaging; dilantin dosing goal 15-20
   - monitoring: daily neurological exams, daily CBC and coags,  fall
   precautions
   - seizure prophylaxis: continue Dilantin 100 mg [**Hospital1 **] with monitoring of
   QOD levels
   - f/u w/ Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT. Call
   [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of
     the [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   # Hypernatremia: likely due to diuresis, diarrhea from lactulose
   - continue flushing tube feeds with free water
   - PM lytes
   .
   # Coagulopathy: likely [**1-11**] hepatic dysfunction, HCT and platelets
   relatively stable.
   - Will continue to follow daily HCT/platelets/INR
   - Check PM CBC, coags
   - Transfusions as above.
   .
   #. Altered mental status: likely [**1-11**] intraparenchymal hemorrhage and
   hepatic encephalopathy
   - lactulose and rifaximin ([**2-11**] BM per day)
   - continue restraints
   .
   #. ESLD: [**1-11**] ETOH, negative viral serologies.  Also ? hemachromatosis
   given transferritin saturation >70 and ferritin >1000, although this
   was in the setting of multiple transfusions.
   - continue Tx for encephalopathy as discussed above
   - consider outpt liver biopsy for ? hemochromatosis
   .
   #. Transverse Process Fractures: non-operative
   .
   # FEN: re-start tube feeds
   # PPX: IV PPI [**Hospital1 **], SCD
   # CODE: Full code, but will address this with the patient
s mother and
   the ethics consult team this AM given pt
s worsened tracheostomy
   bleeding and concern for respiratory compromise/hypovolemia in the
   setting of his already extremely poor prognosis.
   # Access: power PICC line ([**11-27**])
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   # Dispo: ICU for now
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 48M ESLD, falls c/b ICH now s/p trach. Course
   c/b bleeding at trach site, lingular bleed in the setting
   of coagulopathy / thrombocytopenia.  He remains febrile. Received lasix
    80 IV X 2 with good u/o response. Oozing from trach overnight, now
   with profuse bleeding.  IP en route.
   Exam notable for Tm 102.8-->100.9  BP 120/60 HR 90-110  RR 20  sat
   90-95% on TM 100% . Thin M, icteric, unable to follow commands or
   interact. large amt [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) **] from trach, coarse BS, decreased b. RRR
   s1s2, distended, +BS soft, 2+ dep/scrotal edema.
   Labs: WBC 5.5, HCT 21.2,  PLTs  35, INR 2.5, K+ 3.7, Cr 0.9, na 141,
   alb 3.1, esr 16/crp p
   CXR: near complete opacification L, large effussions b, tracheal shift
   to r
   CT torso showed sig pleural effusions L > R, near complete L collapse,
   no obvious loculations or abscess seen.
   A/P: Pt now with diffuse bleeding from trachea.  IP with plans to
   bronch but will likely require OR for rigid bronch,/ bronchial blocker
   to stabilize bleeding. Aspiration of blood R lung continues in pt with
   little underlying reserve. Coagulopathy and thrombocytopenia remains
   difficult to correct in this critically ill pt with ESLD.  Agree with
   plan to replace on vent for support/bronch, transfuse FFP, plts, cryo.
   Unlikely to be DIC, suspect all is liver ds
talk to heme about amicar,
   checking factor 8 level and fibrinogen.  Remains HD stable at this
   time, but consider placing triple lumen for improved access given
   significant bleeding.  Will urgently contact pts family to update them.
   Other active issues remains--Volume overload, but will hold on
   diureses pending bleeding stabilization.   Fevers, w/o
   leukocytosis, with no clear infection source ID'd. Cxs have been
   unrevealing. Potential sources include SBP, sinusitis (without oral
   secretions, + DHT), pleural fluid, blood clot, skin, picc line (no pos
   bl cx), or central fevers from ICH.  Suspect ongoing blood reabsorption
   and inflammation as etiology.  Have discussed possible therapeutic /dx
   [**Female First Name (un) 231**]. This would require reversal of coagulopathy which has been very
   difficult to achieve.  At this point too unstable to tolerate any such
   procedure.  Prognosis for recovery remains poor.  Will contact ethics
   and legal service to assist regarding goals of care as pt has no HCP,
   noting pts living will.  Remainder of plan as outlined above.  ICU:
   Boots, PPI. Full code. Picc
   Patient is critically ill
   Total time: 60 min
   Addendum:
   Ethics ([**First Name11 (Name Pattern1) **] [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) **]) input appreciated.  I spoke with pt
s mother
   [**Name (NI) 1515**] and updated her to declining status, ongoing profuse bleeding and
   our limitations at reversing this process.  She understands that pt has
   very poor prognosis for recovery and is not a liver transplant
   candidate. Although OR for rigid bronch is a possibility, ongoing
   coagulopathy and transfusion dependance will most likely remain a [**Last Name 2050**]
   problem.  Family at this point wishes to change focus of  care toward
   aggressive comfort.  Will d/c blood draws, vent support, transfusions
   and move toward CMO.
   Additional crit care time spent in phone mtg:  25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2156-12-12**] 15:58 ------

2156-12-13 07:03:00 Physician Resident Progress Note
Chief Complaint: 46 yoM w/ ESLD c/b ascites, varices and encephalopathy
   and prolonged hosp. course c/b trauma with IP bleed, SDH, pneumonia and
   encephalopathy and recurrent bouts of respiratory failure [**1-11**] inability
   to protect airway, now with trach and dobhoff placed.
   24 Hour Events:
   - pt coughing up BRB from trach, called IP to see pt, ordered 2U FFP,
   2U PLT, 2U PRBCs for transfusion. - Bronchoscopy with bleeding from the
   left lower lobe.
   - Made CMO after discussion with Ethics and patient's mother/family.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Meropenem - [**2156-12-10**] 11:00 PM
   Vancomycin - [**2156-12-11**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-12-12**] 08:00 AM
   Furosemide (Lasix) - [**2156-12-12**] 09:00 AM
   Morphine Sulfate - [**2156-12-13**] 05:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-13**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 115 (85 - 119) bpm
   BP: 114/40(58) {93/38(52) - 138/74(86)} mmHg
   RR: 13 (10 - 38) insp/min
   SpO2: 86%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.6 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  3,364 mL
                                                                      0 mL
   PO:
             TF:
                                                                    520 mL
   IVF:
                                                                    144 mL
                                                                      0 mL
   Blood products:
                                                                  1,920 mL
   Total out:
                                                                  3,065 mL
                                                                    150 mL
   Urine:
                                                                  1,665 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    299 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, T-piece
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   SpO2: 86%
   ABG: 7.38/63/28//7
   Ve: 8.3 L/min
   PaO2 / FiO2: 80
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   65 K/uL
   6.7 g/dL
   156 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.7 mEq/L
   25 mg/dL
   100 mEq/L
   141 mEq/L
   20.2 %
   4.7 K/uL
        [image002.jpg]
                            [**2156-12-9**]  02:10 PM
                            [**2156-12-9**]  05:20 PM
                            [**2156-12-9**]  08:56 PM
                             [**2156-12-10**]  02:47 AM
                             [**2156-12-10**]  09:46 PM
                             [**2156-12-11**]  04:15 AM
                             [**2156-12-11**]  03:56 PM
                             [**2156-12-12**]  02:18 AM
                             [**2156-12-12**]  08:58 AM
                             [**2156-12-12**]  11:01 AM
   WBC
   4.2
   4.8
   5.5
   4.7
   Hct
   24.8
   24.1
   23.0
   24.5
   22.5
   21.8
   21.2
   20.2
   Plt
   61
   54
   55
   52
   41
   35
   65
   Cr
   0.7
   0.8
   0.6
   0.9
   TCO2
   39
   Glucose
   147
   163
   144
   156
   Other labs: PT / PTT / INR:22.1/47.6/2.1, ALT / AST:23/50, Alk Phos / T
   Bili:169/15.6, Amylase / Lipase:/32, Differential-Neuts:74.1 %,
   Band:0.0 %, Lymph:14.9 %, Mono:6.5 %, Eos:4.2 %, Fibrinogen:142 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:3.1 g/dL, LDH:370 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Imaging: AP CHEST [**2156-12-12**].
   HISTORY: 48-year-old man with respiratory distress and fluid overload.
   FINDINGS: Comparison is made to prior study from [**2156-12-11**].
   The tracheostomy tube and feeding tube are again seen and unchanged in
   position. Patient is rotated on the image and the left lateral chest
   wall has
   been cut off from the study. There is again seen complete whiteout of
   the
   left lung. Previously a small amount of lung parenchyma was seen in the
   left
   upper lobe. There is a large right- sided pleural effusion as well
   Microbiology: [**2156-11-20**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL {ENTEROBACTER CLOACAE, YEAST}
   [**11-30**] Yeast in sputum
   Assessment and Plan
   46 yoM w/ ESLD c/b ascites, varices and encephalopathy and prolonged
   hosp. course c/b trauma with IP bleed, SDH, pneumonia and
   encephalopathy and recurrent bouts of respiratory failure [**1-11**] inability
   to protect airway, with trach and dobhoff placed. Now, pulmonary
   hemorrhage found on bronch after continuing bleeding per tracheostomy.
   Made CMO with holding of treatment now.
   # Respiratory failure: combination mental status, mucus plugging and
   volume overload. Bronch showed secretions, bleed in lingula with BAL,
   treated with epinephrine with reduced bleeding until this AM,
   Recurrence of fever is somewhat concerning for PNA, however WBC stable
   and pt is clinically stable at this time.  Given that recent abx course
   was completed for [**Last Name (LF) 6601**], [**First Name3 (LF) 116**] hold on further abx for now, proceed with
   diuresis, and consider restarting abx if pt shows any clinical
   deterioration.
   - hold on thoracentesis for now given that pt is high bleed risk,
   although pt may need [**Female First Name (un) 231**] in the future given persistent fevers to r/o
   empyema; effusions are most likely volume overload, and not infectious,
   given bilaterality, lack of leukocytosis or inceased O2 requirement.
   - given copious bleeding from trach this AM, transfusing blood products
   as above, and re-consulting IP for bronchoscopy. Will follow up their
   recs.
   - hold on antibiotics for now as above
   - will hold on diuresis this AM given bleeding. Can re-start in the PM
   if pt stabilized.
   - repeat CXR in AM
   - aggressive pulmonary toilet
   # Tracheostomy bleeding
   - Transfusion of 2U pRBCs, 2U PLTs, 2U FFP, 1U Cryo.
   - Will check FDP, fibrinogen to evaluate for DIC
   - Spoke with IP and will see the pt this AM for repeat bronchoscopy to
   try to localize site of bleeding and achieve hemostasis.
   - Re-check CBC, coags after transfusions.
   # Fever: fever spikes overnight without clear source of infection,
   would like to do [**Female First Name (un) 231**] but unable to do so given pt
s coagulopathy. CT
   torso, sinuses without source. All cultures and C. diff negative since
   [**11-20**].
   - holding abxs and monitoring fever curve
   - f/u blood, urine and sputum final cultures
   - f/u final BAL cxs
   - continue surveillance blood cxs
   - CT torso, sinuses without obvious source of infection, but will
   follow up final read.
   - UE and LE LENIs to eval for DT
   # ICH: right IPH and paralfalcine SDH after multiple trauma, stable
   serial imaging; dilantin dosing goal 15-20
   - monitoring: daily neurological exams, daily CBC and coags,  fall
   precautions
   - seizure prophylaxis: continue Dilantin 100 mg [**Hospital1 **] with monitoring of
   QOD levels
   - f/u w/ Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head CT. Call
   [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the [**Hospital Unit Name 10194**] - [**Hospital Unit Name 9839**].
   # Hypernatremia: likely due to diuresis, diarrhea from lactulose
   - continue flushing tube feeds with free water
   - PM lytes
   # Coagulopathy: likely [**1-11**] hepatic dysfunction, HCT and platelets
   relatively stable.
   - Will continue to follow daily HCT/platelets/INR
   - Check PM CBC, coags
   - Transfusions as above.
   #. Altered mental status: likely [**1-11**] intraparenchymal hemorrhage and
   hepatic encephalopathy
   - lactulose and rifaximin ([**2-11**] BM per day)
   - continue restraints
   #. ESLD: [**1-11**] ETOH, negative viral serologies.  Also ? hemachromatosis
   given transferritin saturation >70 and ferritin >1000, although this
   was in the setting of multiple transfusions.
   - continue Tx for encephalopathy as discussed above
   - consider outpt liver biopsy for ? hemochromatosis
   #. Transverse Process Fractures: non-operative
   # FEN: re-start tube feeds
   # PPX: IV PPI [**Hospital1 **], SCD
   # CODE: Full code, but will address this with the patient
s mother and
   the ethics consult team this AM given pt
s worsened tracheostomy
   bleeding and concern for respiratory compromise/hypovolemia in the
   setting of his already extremely poor prognosis.
   # Access: power PICC line ([**11-27**])
   # CONTACT: [**Name (NI) 9995**] mother [**Name (NI) 1515**] is the next of [**Doctor First Name **] and the person to
   call for consents/updates. ([**Telephone/Fax (1) 9996**] and [**Telephone/Fax (1) 9997**]. Other
   family numbers: [**Name (NI) 2255**] (brother) [**Telephone/Fax (1) 9357**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**]
   [**Telephone/Fax (1) 9341**] (not the HCP).
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-27**] 06:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: